2200-08-06 08:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2200-8-5**] 04:24 PM
 NON-INVASIVE VENTILATION - START [**2200-8-6**] 04:30 AM
   - Micro: [**1-15**] GPC
   - [**Last Name (un) 2323**] responded at [**Location (un) **] micro.
   - CVL placed
   - [**Location (un) **]
   - 1x prbc-->HCT 24.9
   - CT LE...not done due to [**Last Name (un) 10093**] radiology swite
   - vascular did not think compartment syndrome
   - trop/MB rising; CP free; FYI paged card who also thinks demand
   ischemia.
   - 2 prbc---HCT 30
   - ouzing from CVL site, 5FFP total
   - O2 sat to low 90s--> noninvasive
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; Parkin
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Labetalol
   Nausea/Vomiting
   Norvasc (Oral) (Amlodipine Besylate)
   vertigo;
   Codeine
   Nausea/Vomiting
   Zocor (Oral) (Simvastatin)
   muscle and join
   Last dose of Antibiotics:
   Piperacillin - [**2200-8-5**] 12:26 PM
   Vancomycin - [**2200-8-5**] 01:09 PM
   Piperacillin/Tazobactam (Zosyn) - [**2200-8-6**] 01:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2200-8-6**] 04:10 AM
   Morphine Sulfate - [**2200-8-6**] 04:45 AM
   Metoprolol - [**2200-8-6**] 06:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-8-6**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 76 (67 - 93) bpm
   BP: 138/42(67) {109/38(57) - 171/75(96)} mmHg
   RR: 15 (12 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (8 - 12)mmHg
   Total In:
                                                                  1,454 mL
                                                                  1,603 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                    367 mL
                                                                    202 mL
   Blood products:
                                                                    987 mL
                                                                  1,351 mL
   Total out:
                                                                     65 mL
                                                                 -1,500 mL
   Urine:
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,389 mL
                                                                  3,103 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 614 (614 - 614) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.36/47/56/25/0
   Ve: 6.4 L/min
   PaO2 / FiO2: 112
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly. HD line in place
   without d/c or erythrema.
   GU: foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   211 K/uL
   11.1 g/dL
   80 mg/dL
   7.3 mg/dL
   25 mEq/L
   3.7 mEq/L
   69 mg/dL
   98 mEq/L
   141 mEq/L
   32.6 %
   11.1 K/uL
        [image002.jpg]
                             [**2200-8-5**]  12:51 PM
                             [**2200-8-5**]  07:34 PM
                             [**2200-8-6**]  02:48 AM
                             [**2200-8-6**]  05:16 AM
   WBC
   18.2
   14.5
   11.1
   Hct
   24.4
   24.9
   32.6
   Plt
   [**Telephone/Fax (3) 10094**]
   Cr
   7.6
   7.6
   7.3
   TropT
   0.50
   0.74
   TCO2
   28
   Glucose
   254
   326
   80
   Other labs: PT / PTT / INR:26.2/35.7/2.5, CK / CKMB /
   Troponin-T:1705/21/0.74, ALT / AST:680/944, Alk Phos / T Bili:145/1.0,
   Amylase / Lipase:/13, Differential-Neuts:87.6 %, Lymph:8.6 %, Mono:2.3
   %, Eos:1.1 %, Lactic Acid:2.1 mmol/L, Albumin:2.7 g/dL, Ca++:9.0 mg/dL,
   Mg++:2.4 mg/dL, PO4:5.9 mg/dL
   URINE
GRAM POSITIVE BACTERIA.    >100,000 ORGANISMS/ML..
         Alpha hemolytic colonies consistent with alpha streptococcus or
         Lactobacillus sp.
   Assessment and Plan
   The patient is a 58 yo woman with h/o DM1, CAD s/p CABG, recent R SFA
   stent/angioplasty, who presented with fevers to 105 and AMS and was
   transferred to the MICU with hypotension and AG acidosis.
   # Sepsis:  The patient presented with fever to 105 and was found to
   have GNRs ([**Location (un) **], official records pnd) and GPC ([**Hospital1 **])  in her blood.
   On vanc/zosyn. WBCs trending down and afebrile overnight. U/A was
   grossly positive for infection. UCx PND. Peritoneal fluid w 26 PMNs.
   DDx includes likely urosepsis (GPC) v. LE (recent procedure) v GI
   (mesenteric ischemia and stricture) vs hepatic abscess.
    - Continue Vanc/Zosyn for broad spectrum coverage
    - F/U blood cultures at [**Location (un) **] and at [**Hospital1 54**]
    - TTE once patient is stable
    - t/b with renal re contrast and consider CT abdomen/pelvis. Alt RUQ
   US  ? hepatic abscess
    - CT LE r/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 10095**] pocket, although GPC from urine are most likely
   source
   # Elevated INR:  Likely warfarin +abx vs hepatic failure. Ouzing
   through CVL.  FFP total, INR trending down.
    - Hold Coumadin.
   - DDAVP in the setting of uremic platelets /aspirin
   # Elevated troponin: The patient has a history of CAD, s/p CABG.  Her
   troponin has increased from 0.14 to 0.31 since admission, and her CK-MB
   is 10.  Her ECG demonstrated ST depressions in V5 and V6 but these
   appear unchanged vs prior. Ddx NSTEMI vs demand ischemia vs renal
   failure. CP free currently.
    - Cardiology C/S
    - given active ouzing and CP free status would hold on heparin for
   now.
    - HCT>30;
    - Continue [**Last Name (NamePattern4) **], Plavix, Statin; if more significant bleeding occurs,
   if unstable secondarty to bleeding will hold [**Last Name (NamePattern4) **]/plavix
    - restart low dose bb as BP tolerates (dose given overnight)
   # Transaminitis: Dx shock liver vs hepatitis vs [**Male First Name (un) **] Chiari vs
   medication vs infection
   - RUQ Doppler u/s
   - consider CT
   - autoimmune and infective hepatitis w/u
   # Respiratory distress: Desat to low 90s with rising O2 req overnight.
   Also wheezing at the time. Concern for PEdema but CXR with only mild r
   hilar fullness. Improved with noninvasive.
   - continue PD (net neg 500cc)
   - would try NC if pt tolerates.
   - nebs prn
   # ESRD: Patient has ESRD on peritoneal HD, secondary to diabetic
   nephropathy.  She last had HD on [**2200-8-3**].  Nephrology has been
   consulted, and they are planning on doing manual exchanges while in the
   hospital.
    - PD q6hrs; f/u renal re HD
    - Renally dose medications
   # UTI: Patient reports new onset of foul smelling uring in the setting
   leukocytosis, positive U/A and fevers.
   - Continue ABX
   # Bilateral leg pain:  The patient recently underwent stent of R SFA,
   which raised concern of compartment syndrome. This is less likely
   because of bilateral nature of paina and positive CK-MB fraction.
   Vascular surgery doest think compartment syndrome is likely.
    - Continue pain control with morphine prn
    - Continue home gabapentin
    - f/u Vascular surgery recs
    - Continue IVFs as tolerated
   # DM1: Insulin gtt overnight, but became hypoglycemic. Transitioned to
   ISS
    - F/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 276**] recs
    - ISS and close monitor
    - low threshold for restarting ggt
   # Hypothyroidism: Continue home levothyroxine.
   # Anemia: Chronic. Likely [**1-13**] CRI. No signs of active bleeding.
    - continue Epogen qSaturday
    - guaiac stools
    - continue to trend
   # FEN: IVFs / replete lytes prn / diabetic/cardiac diet
   # PPX: PPI, coumadin, bowel regimen prn, fall precautions
   # ACCESS: PIV x 2
   # CONTACT: son [**Name (NI) 10086**] [**Name (NI) 10087**] [**Telephone/Fax (1) 10088**] or [**Telephone/Fax (1) 10089**]
   # CODE: FULL
   # DISPO: pending clinical course
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2200-8-5**] 04:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2200-08-06 08:57:00 Physician Attending Progress Note
Chief Complaint: fevers, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58F with dm1, cad, esrd on pd, presents with polymicrobial bacteremia
   and hypotension, with nstemi:
   24 Hour Events:
 MULTI LUMEN - START [**2200-8-5**] 04:24 PM
 NON-INVASIVE VENTILATION - START [**2200-8-6**] 04:30 AM
   -bp remained stable, actually high
   -oozing from line site, decreasing hct
   -resp distress, started on bipap
   -intermittent nausea this am
   -no leg ct because of tenuous resp status
   - new micro
 pansensitive klebsiella from [**Hospital3 **] blood cx
   - new micro
 VRE in [**1-14**] blood cx sets from [**Hospital1 54**]
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; Parkin
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Labetalol
   Nausea/Vomiting
   Norvasc (Oral) (Amlodipine Besylate)
   vertigo;
   Codeine
   Nausea/Vomiting
   Zocor (Oral) (Simvastatin)
   muscle and join
   Last dose of Antibiotics:
   Piperacillin - [**2200-8-5**] 12:26 PM
   Vancomycin - [**2200-8-5**] 01:09 PM
   Piperacillin/Tazobactam (Zosyn) - [**2200-8-6**] 01:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2200-8-6**] 04:10 AM
   Morphine Sulfate - [**2200-8-6**] 04:45 AM
   Metoprolol - [**2200-8-6**] 06:25 AM
   Other medications:
   Zosyn, plavix, statin, synthroid, keppra, lactulose tid, neurontin,
   phos binder, ranitidine, senna, colace, [**Last Name (LF) 10096**], [**First Name3 (LF) **] 325, riss,
   Metoprolol x1 dose,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: Cough
   Gastrointestinal: No(t) Abdominal pain, Nausea
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia
   Psychiatric / Sleep: No(t) Suicidal, No(t) Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2200-8-6**] 08:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 84 (67 - 93) bpm
   BP: 144/52(77) {109/38(57) - 171/75(96)} mmHg
   RR: 22 (12 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 19 (8 - 19)mmHg
   Total In:
                                                                  1,454 mL
                                                                  1,616 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                    367 mL
                                                                    215 mL
   Blood products:
                                                                    987 mL
                                                                  1,351 mL
   Total out:
                                                                     65 mL
                                                                 -3,493 mL
   Urine:
                                                                     65 mL
                                                                      7 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,389 mL
                                                                  5,109 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 796 (614 - 796) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: 7.36/47/56/25/0
   Ve: 6.5 L/min
   PaO2 / FiO2: 112
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.1 g/dL
   211 K/uL
   80 mg/dL
   7.3 mg/dL
   25 mEq/L
   3.7 mEq/L
   69 mg/dL
   98 mEq/L
   141 mEq/L
   32.6 %
   11.1 K/uL
        [image002.jpg]
                             [**2200-8-5**]  12:51 PM
                             [**2200-8-5**]  07:34 PM
                             [**2200-8-6**]  02:48 AM
                             [**2200-8-6**]  05:16 AM
   WBC
   18.2
   14.5
   11.1
   Hct
   24.4
   24.9
   32.6
   Plt
   [**Telephone/Fax (3) 10094**]
   Cr
   7.6
   7.6
   7.3
   TropT
   0.50
   0.74
   TCO2
   28
   Glucose
   254
   326
   80
   Other labs: PT / PTT / INR:26.2/35.7/2.5, CK / CKMB /
   Troponin-T:1705/21/0.74, ALT / AST:680/944, Alk Phos / T Bili:145/1.0,
   Amylase / Lipase:/13, Differential-Neuts:87.6 %, Lymph:8.6 %, Mono:2.3
   %, Eos:1.1 %, Lactic Acid:2.1 mmol/L, Albumin:2.7 g/dL, Ca++:9.0 mg/dL,
   Mg++:2.4 mg/dL, PO4:5.9 mg/dL
   Imaging: cxr:
   Assessment and Plan
 COAGULOPATHY
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 H/O DIABETES MELLITUS (DM), TYPE I
   58F with dm1, cad, esrd on pd, presents with polymicrobial bacteremia
   and hypotension, with nstemi. Sepsis appears to be resolving on the
   current abx. The source remains unclear. Positive UCX but different
   organism from blood cultures (strep sp or lactobacillus). Other
   possible etiologies include leg infection, stent infection.
   Further work-up will include abd ct, leg ct, obtaining records from
   [**Location (un) **] (incl CT), and abd u/s. Will follow-up cultures from both
   hospitals, and for now will continue zosyn and change vancomycin to
   Linezolid.
   NSTEMI deserves some attention. Will follow-up TTE, trend troponins,
   follow EKG, and continue [**Location (un) **], plavix, and will continue discussion with
   cardiology, with possible cards consults. Will start standing low-dose
   beta blocker for HR 60.
   Elevated transaminases will be evaluated with abd u/s. High suspicion
   of shock liver. Will trend enzymes.
   Resp issues possible related to fluid overload. Will discuss with renal
   strategies to get fluid out, and continue NIPPV as needed for comfort
   and oxygen saturation.
   For DM, will continue RISS and discuss with [**Last Name (un) 276**] further management.
   ICU Care
   Nutrition: diabetic tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines: Multi Lumen - [**2200-8-5**] 04:24 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: H2b
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU until aggressive work-up for infection is completed
   Total time spent: 40 mins
   Patient is critically ill

2200-08-07 10:15:00 Physician Attending Progress Note
Chief Complaint: polymicrobial bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58F with DM1, cad, pvd, esrd on PD, presented with hypotension and
   polymicrobial bacteremia, with unclear source:
   24 Hour Events:
 ULTRASOUND - At [**2200-8-6**] 10:13 AM
   Abdominal
   -klebs and vre, abx changed
   -metopr started
   -fever curve down
   History obtained from Patient
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; Parkin
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Labetalol
   Nausea/Vomiting
   Norvasc (Oral) (Amlodipine Besylate)
   vertigo;
   Codeine
   Nausea/Vomiting
   Zocor (Oral) (Simvastatin)
   muscle and join
   Last dose of Antibiotics:
   Piperacillin - [**2200-8-5**] 12:26 PM
   Vancomycin - [**2200-8-5**] 01:09 PM
   Piperacillin/Tazobactam (Zosyn) - [**2200-8-6**] 08:07 AM
   Linezolid - [**2200-8-7**] 12:00 AM
   Infusions:
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Insulin - Regular - [**2200-8-6**] 04:00 PM
   Other medications:
   plavix, levothyrox, keppra, lactulose, gaba, senna, colace, fish oil,
   asa 325, metopr, nac, zosyn, ranitidine, linezolid, ins gtt and lantus,
   morphine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: Chest pain
   Respiratory: Dyspnea, Tachypnea
   Gastrointestinal: Abdominal pain
   Genitourinary: Foley
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Signs or concerns for abuse : No
   Pain: [**2-12**] Mild
   Flowsheet Data as of  [**2200-8-7**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.8
   HR: 73 (68 - 87) bpm
   BP: 137/84(92) {126/38(62) - 155/90(99)} mmHg
   RR: 16 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84 kg (admission): 79 kg
   CVP: 24 (6 - 25)mmHg
   Total In:
                                                                  3,504 mL
                                                                    126 mL
   PO:
                                                                  1,200 mL
   TF:
   IVF:
                                                                    553 mL
                                                                    126 mL
   Blood products:
                                                                  1,701 mL
   Total out:
                                                                   -761 mL
                                                                 -1,946 mL
   Urine:
                                                                     39 mL
                                                                      4 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,265 mL
                                                                  2,072 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Distended, Tender: throughout
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm, Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   240 K/uL
   118 mg/dL
   7.0 mg/dL
   27 mEq/L
   3.3 mEq/L
   63 mg/dL
   96 mEq/L
   139 mEq/L
   28.9 %
   13.9 K/uL
        [image002.jpg]
                             [**2200-8-5**]  12:51 PM
                             [**2200-8-5**]  07:34 PM
                             [**2200-8-6**]  02:48 AM
                             [**2200-8-6**]  05:16 AM
                             [**2200-8-6**]  11:13 AM
                             [**2200-8-7**]  02:54 AM
   WBC
   18.2
   14.5
   11.1
   15.3
   13.9
   Hct
   24.4
   24.9
   32.6
   28.0
   28.9
   Plt
   [**Telephone/Fax (3) 10102**]44
   240
   Cr
   7.6
   7.6
   7.3
   7.5
   7.0
   TropT
   0.50
   0.74
   TCO2
   28
   Glucose
   [**Telephone/Fax (2) 10103**]6
   118
   Other labs: PT / PTT / INR:42.5/37.6/4.5, CK / CKMB /
   Troponin-T:750/15/0.74, ALT / AST:585/509, Alk Phos / T Bili:143/0.9,
   Amylase / Lipase:/13, Differential-Neuts:87.6 %, Lymph:8.6 %, Mono:2.3
   %, Eos:1.1 %, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:528 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Imaging: abd ct: WET READ: GROUND GLASS OPACITIES AT BASES BILATERALLY
   COULD REPRESENT ASPIRATION OR INFECTION. SMALL LEFT PLEURAL EFFUSION.
   MODERATE INTRA-ABDOMINAL ASCITES.
   IRREGULAR SHAPED LOW DENSITY LESION IN SEGMENT II OF LIVER, MEASURING
   1.6 X 2.6 WITH SURROUNDING PERFUSION ABNORMALITY, CONCERNING FOR
   ABSCESS. ADDITIONAL HYPODENSITIES IN SEGMENTS [**First Name11 (Name Pattern1) **] [**Initial (NamePattern1) **] [**Last Name (NamePattern1) **] REPRESENT
   ABCESS VS CYSTS. MODERATE INTRA-ABDOMINAL ASCITES. LE ARTERIES PATENT
   TO LEVEL OF POPLITEALS. DIFFICULT TO ASSESS BEYOND THE POPLITEALS GIVEN
   DEGREE OF ATHEROSCLEROTIC DISEASE. NO SOFT TISSUE GAS OR FLUID
   COLLECTIONS IDENTIFIED.
   cxr: RLL opacity; LLL opacity; both new from yesterday
   Microbiology: bcx:
   Assessment and Plan
 COAGULOPATHY
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 .H/O DIABETES MELLITUS (DM), TYPE I
   58F with DM1, cad, pvd, esrd on PD, presented with hypotension and
   polymicrobial bacteremia, including pan-sensitive klebs and VRE, with
   unclear source. Abd CT is concerning for liver abscesses, possibly due
   to a misplaced biliary stent, discovered on CT and confirmed by patient
   that this was placed at [**Hospital3 **]. GI still appears to be the
   most likely source, esp given peritoneal drain. The abdominal exam is
   improving, and fevers are resolving.
   Respiratory status is still tenuous, though subjectively and
   objectively improving. PD is removing some fluid effectively, and renal
   will continue to help with fluid removal. Will hope to avoid need for
   HD. CXR is concerning for PNA, although her abx are adequate to cover
   hospital acquired PNA.
   ACS is being medically managed with asa, plavix, metoprolol, and she
   remains anticoagulated with warfarin.
   ICU Care
   Nutrition: cardiac diabetic diet
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2200-8-5**] 04:24 PM
   20 Gauge - [**2200-8-6**] 03:17 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2200-08-08 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.4
F - [**2200-8-7**] 08:00 PM
   [**8-6**]:
   - [**Location (un) **] micro. ([**Telephone/Fax (1) 10101**]: Klebsiella in BCx.  Sensitive to
   bactrim, amox, amp/sul, cefaz, ceftriaxone, cipro, lev.  resistant to
   ampicillin. Sensitivities in the chart.
   - Hct at 12 PM decreased to 28.  Transfused 1 U PRBCs
   - Found to have VRE in the blood -> Vanc changed to Linezolid.
   - Started on Metoprolol 12.5 mg TID
   - [**Last Name (un) 276**] recommended Lantus 50 U daily, Regular ISS
   - Restarted Insulin gtt in evening.
   - CT abdomen:  Ground glass opacities at the lung bases.  Small
   bilateral effusions.  Multiple liver lesions which may be infected. ID
   C/S in the am.  No acute process in the legs
   - Increased diasylate to 4.25, as she was starting to get fluid
   overloaded.
   [**8-7**]:
   - Abd CT showed displacement of old biliary stent so c/s ERCP
   - [**Hospital3 **] ERCP was actually from ~[**2198**] per patient, not [**2187**]
   as she initially thought
   - ERCP: high risk for bleeding with therapeutic ERPC but will discuss
   with attending in a.m.
   - [**Last Name (un) 276**]: keep insulin gtt until today at least
   - bcx in anerobic bottle from [**8-5**] with gpc in pairs, chains
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; Parkin
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Labetalol
   Nausea/Vomiting
   Norvasc (Oral) (Amlodipine Besylate)
   vertigo;
   Codeine
   Nausea/Vomiting
   Zocor (Oral) (Simvastatin)
   muscle and join
   Last dose of Antibiotics:
   Vancomycin - [**2200-8-5**] 01:09 PM
   Piperacillin/Tazobactam (Zosyn) - [**2200-8-6**] 08:07 AM
   Piperacillin - [**2200-8-7**] 09:59 AM
   Linezolid - [**2200-8-8**] 12:00 AM
   Infusions:
   Insulin - Regular - 18 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2200-8-7**] 09:59 AM
   Morphine Sulfate - [**2200-8-7**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-8-8**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.4
C (99.4
   HR: 76 (71 - 85) bpm
   BP: 143/39(64) {125/15(48) - 158/138(140)} mmHg
   RR: 16 (12 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87 kg (admission): 79 kg
    CVP: 14 (13 - 21)mmHg
   Total In:
                                                                    661 mL
                                                                    305 mL
   PO:
                                                                    150 mL
   TF:
   IVF:
                                                                    541 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                   -585 mL
                                                                  1,404 mL
   Urine:
                                                                     15 mL
                                                                      4 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,246 mL
                                                                 -1,099 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly. HD line in place
   without d/c or erythrema.
   GU: foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   288 K/uL
   10.5 g/dL
   170 mg/dL
   6.9 mg/dL
   28 mEq/L
   3.0 mEq/L
   55 mg/dL
   98 mEq/L
   143 mEq/L
   31.5 %
   16.8 K/uL
        [image002.jpg]
                             [**2200-8-5**]  12:51 PM
                             [**2200-8-5**]  07:34 PM
                             [**2200-8-6**]  02:48 AM
                             [**2200-8-6**]  05:16 AM
                             [**2200-8-6**]  11:13 AM
                             [**2200-8-7**]  02:54 AM
                             [**2200-8-8**]  03:46 AM
   WBC
   18.2
   14.5
   11.1
   15.3
   13.9
   16.8
   Hct
   24.4
   24.9
   32.6
   28.0
   28.9
   31.5
   Plt
   [**Telephone/Fax (3) 10102**]44
   240
   288
   Cr
   7.6
   7.6
   7.3
   7.5
   7.0
   6.9
   TropT
   0.50
   0.74
   TCO2
   28
   Glucose
   [**Telephone/Fax (3) 10107**]
   Other labs: PT / PTT / INR:43.5/40.2/4.6, CK / CKMB /
   Troponin-T:1383/15/0.74, ALT / AST:573/600, Alk Phos / T Bili:421/4.0,
   Amylase / Lipase:/13, Differential-Neuts:87.6 %, Lymph:8.6 %, Mono:2.3
   %, Eos:1.1 %, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:956 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 10087**] is a 58 yo woman with h/o DM1, CAD s/p CABG, recent R SFA
   stent/angioplasty, who presented with fevers to 105 and AMS and was
   transferred to the MICU with hypotension and AG acidosis.
   # Sepsis:  Klebsiella ([**Location (un) **], official records pnd) and VRE ([**Hospital1 **])  in
   her blood.   On linezolid/zosyn.  Also has alpha streptococcus or
   Lactobacillus sp. in urine cx.  Peritoneal fluid w 26 PMNs. CT abdomen
   showed multiple liver abscesses.  DDx includes likely liver abscesses
   v. (GPC) v. LE (recent procedure) vs dislocation of stent.  No e/o
   mesenteric ischemia on abd CT.  ID was consulted today.
    - F/U ID recs
    - f/u ERCP recs
    - Continue linezolid/Zosyn for broad spectrum coverage
    - may need drainage of abscesses in liver
    - f/u final CT read
   # Troponin rise: The patient has a history of CAD, s/p CABG.  Troponin
   rise on this admission.  Her ECG demonstrated ST depressions in V5 and
   V6 but these appear unchanged vs prior.  Likely demand ischemia vs ACS
   vs renal failure. Pt had CP overnight, ECG grossly unchanged.  CP free.
    - HCT>30
    - Continue asa, Plavix, Statin; if more significant bleeding occurs,
   if unstable secondarty to bleeding will hold asa/plavix
    - restarted low dose bb as BP tolerates
   - c/s cards if ERCP rec d.c plavix /asa
   # Respiratory distress: Desat to low 90s with rising O2 req, likely
   secondary to pulm edema from volume overload.  Low suspicion for pna at
   this time.
   - continue PD but will discuss with renal regarding increasing fluid
   removal
   - would try NC if pt tolerates.
   - nebs prn
   - Repeat CXR tomorrow.
   - Continue Linezolid/Zosyn
   # Elevated INR:  On warfarin at home for report of UE DVT.  Likely
   warfarin +abx vs hepatic failure.
    - Hold Coumadin
    - DDAVP if needed in the setting of uremic platelets /aspirin
   # Transaminitis: Likely [**1-13**] hepatic abscesses but may also be related
   to shock liver vs hepatitis vs cholestasis/dislocated stent
   - antibx, ID consult for hepatic abscesses
   - will send [**Doctor First Name 1205**] and anti-SM Ab, though low suspicion
   - Hold off on Hepatitis serologies, as patient was negative in [**Month (only) 1033**]
   - Decrease Crestor dose to 10 mg daily for renal dosing
   # ESRD: Patient has ESRD on peritoneal HD, secondary to diabetic
   nephropathy.  She last had HD on [**2200-8-3**].  Nephrology has been
   consulted, and they are planning on doing manual exchanges while in the
   hospital.
    - PD vs HD, will discuss with renal
    - Renally dose medications
   # UTI: GPC in urine. Specificity pnd.
   - Continue ABX
   # Bilateral leg pain:  The patient recently underwent stent of R SFA,
   which raised concern of compartment syndrome. This is less likely
   because of bilateral nature of pain and positive CK-MB fraction.
   Vascular surgery does not think compartment syndrome is likely and LE
   CT is neg by prelim.  DDx also includes rhabdo [**1-13**] Crestor use given
   elevated LFTs and CK
    - Continue pain control with morphine prn
    - f/u final CT read
    - Continue home gabapentin
    - f/u Vascular surgery recs
   # DM1: Insulin gtt overnight, as patient was hyperglycemic yesterday
    - F/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 276**] recs
    - Insulin gtt and check FSBG q1h
   # Hypothyroidism: Continue home levothyroxine.
   # Anemia: Chronic. Likely [**1-13**] CRI. No signs of active bleeding.
    - continue Epogen qSaturday
    - guaiac stools
    - continue to trend
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2200-8-5**] 04:24 PM
   20 Gauge - [**2200-8-6**] 03:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2200-08-08 10:24:00 Physician Attending Progress Note
Chief Complaint: ascending cholangitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58F with dm1, cad, esrd on PD, presents with hypotension and abd pain,
   now with polymicrobial bacteremia and possible biliary obstruction:
   24 Hour Events:
 FEVER - 101.4
F - [**2200-8-7**] 08:00 PM
   -leukocytosis up
   -bili/alk phos up, inr  up
                                         History obtained from Patient
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; Parkin
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Labetalol
   Nausea/Vomiting
   Norvasc (Oral) (Amlodipine Besylate)
   vertigo;
   Codeine
   Nausea/Vomiting
   Zocor (Oral) (Simvastatin)
   muscle and join
   Last dose of Antibiotics:
   Vancomycin - [**2200-8-5**] 01:09 PM
   Piperacillin/Tazobactam (Zosyn) - [**2200-8-6**] 08:07 AM
   Piperacillin - [**2200-8-7**] 09:59 AM
   Linezolid - [**2200-8-8**] 12:00 AM
   Infusions:
   Insulin - Regular - 15 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2200-8-7**] 09:59 AM
   Morphine Sulfate - [**2200-8-7**] 08:15 PM
   Other medications:
   linezolid, plavix, levothyrox, keppra, gaba, senna, docusate, fish oil,
   vitd, nephrocaps, zosyn, ranitidine, glargine,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Eyes: No(t)  Blurry vision
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea
   Gastrointestinal: Abdominal pain, Nausea, No(t) Emesis, No(t) Diarrhea,
   No(t) Constipation
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Signs or concerns for abuse : No
   Pain: [**2-12**] Mild
   Flowsheet Data as of  [**2200-8-8**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.8
C (98.3
   HR: 72 (71 - 85) bpm
   BP: 141/50(75) {125/15(48) - 158/138(140)} mmHg
   RR: 15 (12 - 30) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.7 kg (admission): 79 kg
   CVP: 14 (13 - 21)mmHg
   Total In:
                                                                    661 mL
                                                                    380 mL
   PO:
                                                                    150 mL
   TF:
   IVF:
                                                                    541 mL
                                                                    230 mL
   Blood products:
   Total out:
                                                                   -585 mL
                                                                  1,404 mL
   Urine:
                                                                     15 mL
                                                                      4 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,246 mL
                                                                 -1,024 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   [**Last Name (un) 7746**])
   Abdominal: Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   288 K/uL
   170 mg/dL
   6.9 mg/dL
   28 mEq/L
   3.0 mEq/L
   55 mg/dL
   98 mEq/L
   143 mEq/L
   31.5 %
   16.8 K/uL
        [image002.jpg]
                             [**2200-8-5**]  12:51 PM
                             [**2200-8-5**]  07:34 PM
                             [**2200-8-6**]  02:48 AM
                             [**2200-8-6**]  05:16 AM
                             [**2200-8-6**]  11:13 AM
                             [**2200-8-7**]  02:54 AM
                             [**2200-8-8**]  03:46 AM
   WBC
   18.2
   14.5
   11.1
   15.3
   13.9
   16.8
   Hct
   24.4
   24.9
   32.6
   28.0
   28.9
   31.5
   Plt
   [**Telephone/Fax (3) 10102**]44
   240
   288
   Cr
   7.6
   7.6
   7.3
   7.5
   7.0
   6.9
   TropT
   0.50
   0.74
   TCO2
   28
   Glucose
   [**Telephone/Fax (3) 10107**]
   Other labs: PT / PTT / INR:43.5/40.2/4.6, CK / CKMB /
   Troponin-T:1383/15/0.74, ALT / AST:573/600, Alk Phos / T Bili:421/4.0,
   Amylase / Lipase:/13, Differential-Neuts:87.6 %, Lymph:8.6 %, Mono:2.3
   %, Eos:1.1 %, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:956 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Imaging: no new imaging
   Microbiology: bcx 8.25: likely vre again
   Assessment and Plan
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 TRANSFERS, IMPAIRED
 COAGULOPATHY
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 .H/O DIABETES MELLITUS (DM), TYPE I
   58F with dm1, cad, esrd on PD, presents with hypotension and abd pain,
   now with plymicrobial bacteremia and possible biliary obstruction. The
   etiology of bacteremia is likely biliary obstruction with evidence of
   possible liver abscess. Patient has an unclear history of biliary
   intervention in the past (placed at [**Hospital1 **] in 97), and the biliary
   stent appears to be misplaced based on the CT. ERCP is the next logical
   step in the care of the patient. For now will continue antibiotics,
   with guidance from ID team as well.
   For CAD and femoral stent, we need to continue anti-platelet agents,
   realizing there is a risk of bleeding during the ERCP procedure. FFP
   should be given prior to the procedure.
   Continued insulin therapy given DM1, though need to be cautious given
   NPO status.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2200-8-5**] 04:24 PM
   20 Gauge - [**2200-8-6**] 03:17 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition : ICU ; need to transfer to [**Hospital Unit Name 44**] for ERCP procedure
   Total time spent: 35 minutes
   Patient is critically ill

2200-08-09 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2200-8-8**] 03:30 PM
   - given 4 mg vit K PO to correct INR
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; Parkin
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Labetalol
   Nausea/Vomiting
   Norvasc (Oral) (Amlodipine Besylate)
   vertigo;
   Codeine
   Nausea/Vomiting
   Zocor (Oral) (Simvastatin)
   muscle and join
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2200-8-6**] 08:07 AM
   Piperacillin - [**2200-8-7**] 09:59 AM
   Linezolid - [**2200-8-8**] 12:28 PM
   Infusions:
   Insulin - Regular - 13.5 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-8-9**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 74 (67 - 86) bpm
   BP: 129/36(59) {113/36(59) - 163/95(107)} mmHg
   RR: 12 (11 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.7 kg (admission): 79 kg
   Height: 62 Inch
             Total In:
                                                                  1,029 mL
                                                                    125 mL
   PO:
                                                                    320 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    709 mL
                                                                     95 mL
   Blood products:
   Total out:
                                                                  5,214 mL
                                                                    606 mL
   Urine:
                                                                     14 mL
                                                                      6 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,185 mL
                                                                   -481 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General: Alert, oriented, no acute distress, in mild pain
   HEENT: mmm, very poor dentition, NC/AT, anicteric sclera
   Neck: no LAD, JVP difficult to assess
   Lungs: clear bilaterally anteriorly
   CV: regular rate, no mrg appreciated
   Abdomen: Distended, hypoactive bs, soft, diffuse TTP, no R/G.  PD line
   in place, no discharge or erythema
   GU: foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   273 K/uL
   10.9 g/dL
   164 mg/dL
   6.8 mg/dL
   28 mEq/L
   3.0 mEq/L
   50 mg/dL
   97 mEq/L
   141 mEq/L
   32.4 %
   17.0 K/uL
        [image002.jpg]
                             [**2200-8-5**]  12:51 PM
                             [**2200-8-5**]  07:34 PM
                             [**2200-8-6**]  02:48 AM
                             [**2200-8-6**]  05:16 AM
                             [**2200-8-6**]  11:13 AM
                             [**2200-8-7**]  02:54 AM
                             [**2200-8-8**]  03:46 AM
                             [**2200-8-9**]  04:01 AM
   WBC
   18.2
   14.5
   11.1
   15.3
   13.9
   16.8
   17.0
   Hct
   24.4
   24.9
   32.6
   28.0
   28.9
   31.5
   32.4
   Plt
   [**Telephone/Fax (3) 10102**]44
   240
   288
   273
   Cr
   7.6
   7.6
   7.3
   7.5
   7.0
   6.9
   6.8
   TropT
   0.50
   0.74
   TCO2
   28
   Glucose
   [**Telephone/Fax (3) 10107**]
   164
   Other labs: PT / PTT / INR:32.2/34.7/3.2, CK / CKMB /
   Troponin-T:1383/15/0.74, ALT / AST:388/398, Alk Phos / T Bili:588/4.4,
   Amylase / Lipase:/13, Differential-Neuts:87.6 %, Lymph:8.6 %, Mono:2.3
   %, Eos:1.1 %, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:956 IU/L,
   Ca++:9.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   C diff - negative
   Blood Cultures
 pending, NGTD
   Assessment and Plan
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 TRANSFERS, IMPAIRED
 COAGULOPATHY
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 .H/O DIABETES MELLITUS (DM), TYPE I
   58 yo F transferred from west ICU for ERCP.  Admitted on [**8-5**] with
   polymicrobial sepsis - klebsiella and VRE and transaminitis attributed
   to shock liver.  New hyperbilirubinemia today with worsening
   transaminitis and increased abdominal pain, concern for cholangitis.
   Also with mild SOB on transfer since resolved.
   # Hyperbilirubinemia: TBili acutely increased from 1--->4 this morning
   with worsening abd pain. Concern for cholangitis given rising WBC,
   though HD stable. CT showing displaced stent, and intrahepatic biliary
   duct dilation in addition to several areas concerning for abscess.
   - ERCP following, appreciate recs
   - continue linzeolid and zosyn
   - patient HD stable, plan for INR reversal (4.6 today) over weekend and
   ERCP on Monday.  If becomes hemodynamically unstable will need  ERCP
   more emergently
   - trend LFT's
   # Transaminitis:  Worsening now though had initially been improving.
   Transaminitis on presentation thought to be shock liver and were
   improving.  This morning they worsened in setting of elevated bili.
   Likely [**1-13**] cholangitis.
   - trend
   - ERCP as above
   #. Sepsis:  Resolving.  Presumed cause is biliary tract given
   polymicrobical culture of klebsiella and VRE.  BP's stable (running
   140-160's) over last 24 hours.
   - continue Linezolid and Zosyn
   - ID following, appreciate recs
   - R IJ in place
   - maintain UOP >30cc/hr
   - MAP >65
   - bolus as needed
   # Elevated INR: INR 4.6 this morning after initially falling from peak
   of 6.7.  Unclear cause, likely [**1-13**] antibiotic use, poor po intake.  Per
   ERCP, ideally will be 1.5 though would tolerate 1.9 for procedure.
   - per hospital INR guidelines, reversal of level of 4.6 involves
   holding doses.  However, patient goign for semi-urgent procedure so
   will be more aggressive in reversing and give vitamin K 4mg po.
   - trend INR - if elevated tomorrow, consider additional po vitamin K,
   no role for IV or sq in this setting
   # Shortness of Breath: Reported on transfer, but since resolved. Likely
   multifactorial - mild volume o/l, splinting [**1-13**] pain, GGOs on CT.
   Sating well on RA.
   - follow
   # Demand Ischemia:  Noted to have elevated troponin on admission - was
   at baseline of 0/14 per opt pt cards.  Continued to rise to 0.74 on
   [**8-7**], per cards c/s felt to be due to demand ischemia.  MBI was flat.
   EKG unchanged from prior.
   - continue BB, statin
   - holding ASA in prep for ERCP
   # Peripheral Vascular Disease:  S/p R SFA stent placement and
   angioplasty and R SFA-AK [**Doctor Last Name 114**] angioplasty earlier this month.  Leg pain
   at baseline now.  There was initial concern for compartment syndrome
   with elevated CK, but pt with demand ischemia, CK elevation not
   attributed to skeletal muscle source.  Vascular following, appreciate
   recs.
   - continue plavix given recent stent placement - ERCP aware
   - holding ASA
   - continue gabapentin nad morphine prn for pain
   # ESRD: Secondary to DM, on peritoneal dialysis - performing bedside
   with goal to ultrafiltrate -- changing regimen to 3 hour dwell to
   attempt to remove more fluid.
   - peritoneal fluid bland, not thought to be source of infection
   - nephrology following, appreciate recs
   - avoid nephrotoxins, renally dose meds
   # Pyuria:  On admission with pyuria and report of foul smelling urine.
   Was treated for UTI.  Culture growing genital flora.
   # DM1: Complicated by retinopathy, neuropathy, nephropathy,
   gastroparesis.
   - [**Last Name (un) 276**] following
   - FSBG q1h
   # Hypothyroidism: Continue home levothyroxine.
   # Anemia: At baseline. Chronic. Likely [**1-13**] CRI. No signs of active
   bleeding.
   - continue Epogen qSaturday
   - continue to trend  daily
   # FEN: IVFs / replete lytes prn / diabetic/cardiac diet
   # PPX: PPI, supratherapeutic INR, bowel regimen prn, fall precautions
   # ACCESS: PIV x 2
   # CONTACT: son [**Name (NI) 10086**] [**Name (NI) 10087**] [**Telephone/Fax (1) 10088**] or [**Telephone/Fax (1) 10089**]
   # CODE: FULL
   # DISPO: pending above
   ICU Care
   Nutrition:
   Glycemic Control: insulin sliding scale
   Lines:
   Multi Lumen - [**2200-8-5**] 04:24 PM
   20 Gauge - [**2200-8-6**] 03:17 PM
   Prophylaxis:
   DVT: (supratherapeutic INR)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition: ICU

2200-08-09 10:01:00 Physician Attending Progress Note
Chief Complaint: polymicrobial bacteremia, cholangitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  58F with DM1, CAD, ESRD on PD, presents with hypotension and abd
   pain, found to have polymicrobial bacteremia (kelbsiella and vre) and
   possible biliary obstruction.
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2200-8-8**] 03:30 PM
   received PO vit K for supratherapeutic INR
   History obtained from ho
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; Parkin
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Labetalol
   Nausea/Vomiting
   Norvasc (Oral) (Amlodipine Besylate)
   vertigo;
   Codeine
   Nausea/Vomiting
   Zocor (Oral) (Simvastatin)
   muscle and join
   Last dose of Antibiotics:
   Piperacillin - [**2200-8-7**] 09:59 AM
   Linezolid - [**2200-8-8**] 12:28 PM
   Infusions:
   Insulin - Regular - 13.5 units/hour
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-8-9**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 74 (67 - 86) bpm
   BP: 130/52(71) {113/36(57) - 163/95(107)} mmHg
   RR: 14 (11 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.7 kg (admission): 79 kg
   Height: 62 Inch
             Total In:
                                                                  1,029 mL
                                                                    204 mL
   PO:
                                                                    320 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    709 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  5,214 mL
                                                                    606 mL
   Urine:
                                                                     14 mL
                                                                      6 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,185 mL
                                                                   -402 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, overweight F, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), distant
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear anteriorly, wheezy and
   rhoncorous posteriorly
   Abdominal: Soft, Bowel sounds present, Distended with PD fluid, Mildly
   tender: diffuse, no r/g,neg [**Doctor Last Name 1112**]
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  warm, palp pedal pulses
   Neurologic: Somnolent butAttentive, Follows simple commands, Responds
   to: verbal, Movement: spontaneous
   Labs / Radiology
   10.9 g/dL
   273 K/uL
   164 mg/dL
   6.8 mg/dL
   28 mEq/L
   3.0 mEq/L
   50 mg/dL
   97 mEq/L
   141 mEq/L
   32.4 %
   17.0 K/uL
        [image002.jpg]
                             [**2200-8-5**]  12:51 PM
                             [**2200-8-5**]  07:34 PM
                             [**2200-8-6**]  02:48 AM
                             [**2200-8-6**]  05:16 AM
                             [**2200-8-6**]  11:13 AM
                             [**2200-8-7**]  02:54 AM
                             [**2200-8-8**]  03:46 AM
                             [**2200-8-9**]  04:01 AM
   WBC
   18.2
   14.5
   11.1
   15.3
   13.9
   16.8
   17.0
   Hct
   24.4
   24.9
   32.6
   28.0
   28.9
   31.5
   32.4
   Plt
   [**Telephone/Fax (3) 10102**]44
   240
   288
   273
   Cr
   7.6
   7.6
   7.3
   7.5
   7.0
   6.9
   6.8
   TropT
   0.50
   0.74
   TCO2
   28
   Glucose
   [**Telephone/Fax (3) 10107**]
   164
   Other labs: PT / PTT / INR:32.2/34.7/3.2, CK / CKMB /
   Troponin-T:1383/15/0.74, ALT / AST:388/398, Alk Phos / T Bili:588/4.4,
   Amylase / Lipase:/13, Differential-Neuts:87.6 %, Lymph:8.6 %, Mono:2.3
   %, Eos:1.1 %, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:956 IU/L,
   Ca++:9.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Imaging: no imaging
   Microbiology: c  diff neg
   blood pending, ngtd (last pos cx [**8-5**])
   urine cx neg
   PD cx neg
   Assessment and Plan:
   58F with DM1, CAD, ESRD on PD, presents with hypotension and abd pain,
   found to have polymicrobial bacteremia (kelbsiella and vre) and
   possible biliary obstruction.
   ISSUES INLCUDE:
          Polymicrobial bactermia
          Biliary obstruction
          Leukocytosis
          COAGULOPATHY
supratherapeutic INR
          Femoral stent, PVD
          RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
          H/O DIABETES MELLITUS (DM), TYPE I
          BALANCE, IMPAIRED
          GAIT, IMPAIRED
          KNOWLEDGE, IMPAIRED
          TRANSFERS, IMPAIRED
   The etiology of bacteremia/leukocytosis is likely biliary obstruction
   with evidence of possible liver abscess vs large biliary ducts/bile
   pooling seen on CT abd. Patient has an unclear history of prior biliary
   intervention (placed at OSH several yrs prior) and the biliary stent
   appears to be misplaced by CT read.
   We continue to correct her supratherpautic INR with vit K prior to
   undergoing ERCP.   Continue antibiotics, with guidance from ID team
   given her polymicrobial bacteremia. F/u any pending cx data and recx if
   spikes. Continue to monitor LFTs and follow serial abd exam.
   Coagulopathy/supratherapurtic INR is in the setting of coumadin and
   antibxs.
   For PVD and femoral stent, we will continue anti-platelet agents,
   though there is a risk of bleeding during the ERCP procedure.  Will
   give FFP peri-procedure and monitor closely for post-procedure
   bleeding.
   She continues on PD for esrd.  Following lytes.
   Continued insulin therapy given DM1, though need to be cautious given
   NPO status.  [**Last Name (un) 276**] team is following.
    Remainder as outlined in resident note.
   ICU Care
   Nutrition:  PO diet
   Glycemic Control:  Regular insulin sliding scale, Insulin infusion
   Lines:
   Multi Lumen - [**2200-8-5**] 04:24 PM
   20 Gauge - [**2200-8-6**] 03:17 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2200-08-10 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   .
   [**8-9**]
   -putting out a lot from her Peritoneal dialysis. paged Renal, no
   response.
   .
   -ERCP: ERCP and stent change on Monday pending INR trending down
   -Renal: decreased dwell time so she has more output
   -Vascular surgery: none in chart
   -[**Last Name (un) 276**]: increase to Lantus 50U q8H but prior to receiving lantus TID,
   pt had hypoglycemia to 56. Given OJ. Changed back to lantus [**Hospital1 **]. Will
   d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 276**].
   .
   -ID: none in chart for [**8-9**]
   .
   -Per MICU green admit note: CVL placed in MICU, not OSH
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; Parkin
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Labetalol
   Nausea/Vomiting
   Norvasc (Oral) (Amlodipine Besylate)
   vertigo;
   Codeine
   Nausea/Vomiting
   Zocor (Oral) (Simvastatin)
   muscle and join
   Last dose of Antibiotics:
   Piperacillin - [**2200-8-7**] 09:59 AM
   Linezolid - [**2200-8-8**] 12:28 PM
   Piperacillin/Tazobactam (Zosyn) - [**2200-8-9**] 09:30 PM
   Infusions:
   Insulin - Regular - 9 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-8-10**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.9
   HR: 89 (64 - 89) bpm
   BP: 112/41(55) {102/36(55) - 150/92(96)} mmHg
   RR: 22 (11 - 25) insp/min
   SpO2: 96% 2L NC
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.7 kg (admission): 79 kg
   Height: 62 Inch
             Total In:
                                                                    916 mL
                                                                     93 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                    616 mL
                                                                     93 mL
   Blood products:
   Total out:
                                                                  3,006 mL
                                                                    706 mL
   Urine:
                                                                      6 mL
                                                                      6 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,090 mL
                                                                   -613 mL
   Physical Examination
   General: Alert, oriented, no acute distress, in mild pain
   HEENT: mmm, very poor dentition, NC/AT, anicteric sclera
   Neck: no LAD, JVP difficult to assess
   Lungs: clear bilaterally anteriorly
   CV: regular rate, no mrg appreciated
   Abdomen: Distended, hypoactive bs, soft, diffuse TTP, no R/G.  PD line
   in place, no discharge or erythema
   GU: foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   259 K/uL
   10.2 g/dL
   195 mg/dL
   6.3 mg/dL
   28 mEq/L
   4.4 mEq/L
   45 mg/dL
   97 mEq/L
   137 mEq/L
   31.1 %
   18.3 K/uL
        [image002.jpg]
                             [**2200-8-5**]  12:51 PM
                             [**2200-8-5**]  07:34 PM
                             [**2200-8-6**]  02:48 AM
                             [**2200-8-6**]  05:16 AM
                             [**2200-8-6**]  11:13 AM
                             [**2200-8-7**]  02:54 AM
                             [**2200-8-8**]  03:46 AM
                             [**2200-8-9**]  04:01 AM
                             [**2200-8-10**]  03:20 AM
   WBC
   18.2
   14.5
   11.1
   15.3
   13.9
   16.8
   17.0
   18.3
   Hct
   24.4
   24.9
   32.6
   28.0
   28.9
   31.5
   32.4
   31.1
   Plt
   [**Telephone/Fax (3) 10102**]44
   [**Telephone/Fax (2) 10115**]59
   Cr
   7.6
   7.6
   7.3
   7.5
   7.0
   6.9
   6.8
   6.3
   TropT
   0.50
   0.74
   TCO2
   28
   Glucose
   [**Telephone/Fax (3) 10107**]
   164
   195
   Other labs: Ca++:10.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   PT / PTT / INR:14.0/24.7/1.2,
   ALT / AST:359/303, Alk Phos / T Bili:580/3.9 (all decreased)
   .
   C diff - negative
   [**8-4**]
 enterococcus (on linezolid)
   [**8-5**] BCx
 GPC
   [**8-7**], [**8-8**], [**8-9**] - NGTD
   Assessment and Plan
   58 yo F transferred from west ICU for ERCP.  Admitted on [**8-5**] with
   polymicrobial sepsis - klebsiella and VRE and transaminitis attributed
   to shock liver.  New hyperbilirubinemia today with worsening
   transaminitis and increased abdominal pain, concern for cholangitis.
   Also with mild SOB on transfer since resolved.
   .
   #. Sepsis:  Resolving.  Presumed cause is biliary tract given
   polymicrobical culture of klebsiella and VRE.  BP's stable (running
   140-160's) over last 24 hours.
   - continue Linezolid and Zosyn
   - ID following, appreciate recs
   - maintain UOP >30cc/hr
   - MAP >65
   - bolus as needed
   .
   # Hyperbilirubinemia: TBili acutely increased from 1--->4 this morning
   with worsening abd pain. Concern for cholangitis given rising WBC,
   though HD stable. CT showing displaced stent, and intrahepatic biliary
   duct dilation in addition to several areas concerning for abscess.
   - ERCP following, appreciate recs
   - continue linzeolid and zosyn
   - patient HD stable, plan for INR reversal (4.6 on ICU transfer) over
   weekend and ERCP on Monday.  If becomes hemodynamically unstable will
   need  ERCP more emergently
   - trend LFT's
   .
   # Transaminitis:  Worsening now though had initially been improving.
   Transaminitis on presentation thought to be shock liver and were
   improving.  This morning they worsened in setting of elevated bili.
   Likely [**1-13**] cholangitis.
   - trend
   - ERCP as above
   - serial abdominal exams
      .
   # Elevated INR: INR 3.2 this morning after 4 mg vitamin K yesterday.
   Unclear cause of elevated INR, likely [**1-13**] antibiotic use, poor po
   intake.  Per ERCP, ideally will be 1.5 though would tolerate 1.9 for
   procedure.
   - Check PM INR, give Vitamin K if still elevated
   - plan for ERCP on Monday
   # Demand Ischemia:  Noted to have elevated troponin on admission - was
   at baseline of 0/14 per opt pt cards.  Continued to rise to 0.74 on
   [**8-7**], per cards c/s felt to be due to demand ischemia.  MBI was flat.
   EKG unchanged from prior.
   - continue BB, statin
   - holding ASA in prep for ERCP
   # Peripheral Vascular Disease:  S/p R SFA stent placement and
   angioplasty and R SFA-AK [**Doctor Last Name 114**] angioplasty earlier this month.  Leg pain
   at baseline now.  There was initial concern for compartment syndrome
   with elevated CK, but pt with demand ischemia, CK elevation not
   attributed to skeletal muscle source.  Vascular following, appreciate
   recs.
   - continue plavix given recent stent placement - ERCP aware
   - holding ASA
   - continue gabapentin nad morphine prn for pain
   # ESRD: Secondary to DM, on peritoneal dialysis - performing bedside
   with goal to ultrafiltrate -- changing regimen to 3 hour dwell to
   attempt to remove more fluid.
   - peritoneal fluid bland, not thought to be source of infection
   - nephrology following, appreciate recs
   - avoid nephrotoxins, renally dose meds
   # Pyuria:  On admission with pyuria and report of foul smelling urine.
   Was treated for UTI.  Culture growing genital flora.
   # DM1: Complicated by retinopathy, neuropathy, nephropathy,
   gastroparesis.
   - [**Last Name (un) 276**] following.  On [**Last Name (un) 276**] recommended insulin regimen
   - FSBG q1h
   # Hypothyroidism: Continue home levothyroxine.
   # Anemia: At baseline. Chronic. Likely [**1-13**] CRI. No signs of active
   bleeding.
   - continue Epogen qSaturday
   - continue to trend  daily
   ICU Care
   Nutrition: Regular diabetic, cardiac diet
   Glycemic Control:  ISS [**First Name8 (NamePattern2) **] [**Last Name (un) 276**]
   Lines:
   Multi Lumen - [**2200-8-5**] 04:24 PM
   20 Gauge - [**2200-8-6**] 03:17 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments: son [**Name (NI) 10086**] [**Name (NI) 10087**] [**Telephone/Fax (1) 10088**] or
   [**Telephone/Fax (1) 10089**]
   Code status: Full code
   Disposition: ICU

2200-08-10 11:13:00 Physician Attending Progress Note
Chief Complaint: polymicrobial sepsis, biliary obstruction/cholangitis
   with possible liver abscess
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58F with DM1, CAD, ESRD on PD, presents with hypotension and abd pain,
   found to have polymicrobial bacteremia (kelbsiella and vre) and
   possible biliary obstruction/cholangitis.
   24 Hour Events:
   uneventful overnight
   History obtained from Patient, HO
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; Parkin
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Labetalol
   Nausea/Vomiting
   Norvasc (Oral) (Amlodipine Besylate)
   vertigo;
   Codeine
   Nausea/Vomiting
   Zocor (Oral) (Simvastatin)
   muscle and join
   Last dose of Antibiotics:
   Linezolid - [**2200-8-8**] 12:28 PM
   Piperacillin/Tazobactam (Zosyn) - [**2200-8-10**] 10:00 AM
   Infusions:
   Insulin - Regular - 9 units/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2200-8-10**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2200-8-10**] 09:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-8-10**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.2
   HR: 81 (64 - 89) bpm
   BP: 121/82(92) {102/36(55) - 150/92(96)} mmHg
   RR: 19 (11 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.3 kg (admission): 79 kg
   Height: 62 Inch
             Total In:
                                                                    916 mL
                                                                    374 mL
   PO:
                                                                    300 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    616 mL
                                                                    224 mL
   Blood products:
   Total out:
                                                                  3,006 mL
                                                                  1,306 mL
   Urine:
                                                                      6 mL
                                                                      6 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,090 mL
                                                                   -932 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: No(t) Endotracheal tube, No(t) NG tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal) faint sys m
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant, Rhonchorous:
   posteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, Cyanosis, Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: verbal stimuli, Movement: spontaneous, alert
   and oriented, flattened affect
   Labs / Radiology
   10.2 g/dL
   259 K/uL
   195 mg/dL
   6.3 mg/dL
   28 mEq/L
   4.4 mEq/L
   45 mg/dL
   97 mEq/L
   137 mEq/L
   31.1 %
   18.3 K/uL
        [image002.jpg]
                             [**2200-8-5**]  12:51 PM
                             [**2200-8-5**]  07:34 PM
                             [**2200-8-6**]  02:48 AM
                             [**2200-8-6**]  05:16 AM
                             [**2200-8-6**]  11:13 AM
                             [**2200-8-7**]  02:54 AM
                             [**2200-8-8**]  03:46 AM
                             [**2200-8-9**]  04:01 AM
                             [**2200-8-10**]  03:20 AM
   WBC
   18.2
   14.5
   11.1
   15.3
   13.9
   16.8
   17.0
   18.3
   Hct
   24.4
   24.9
   32.6
   28.0
   28.9
   31.5
   32.4
   31.1
   Plt
   [**Telephone/Fax (3) 10102**]44
   [**Telephone/Fax (2) 10115**]59
   Cr
   7.6
   7.6
   7.3
   7.5
   7.0
   6.9
   6.8
   6.3
   TropT
   0.50
   0.74
   TCO2
   28
   Glucose
   [**Telephone/Fax (3) 10107**]
   164
   195
   Other labs: PT / PTT / INR:14.0/24.7/1.2, CK / CKMB /
   Troponin-T:1383/15/0.74, ALT / AST:359/303, Alk Phos / T Bili:580/3.9,
   Amylase / Lipase:/13, Differential-Neuts:87.6 %, Lymph:8.6 %, Mono:2.3
   %, Eos:1.1 %, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:956 IU/L,
   Ca++:10.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Imaging: no imaging
   Microbiology: c diff neg
   bl [**8-4**]-->vre
   bl with gpc [**8-5**]-->f/u ngtd
   Assessment and Plan
   58F with DM1, CAD, ESRD on PD, presents with sepsis/hypotension, found
   to have polymicrobial bacteremia (kelbsiella and vre) and possible
   biliary obstruction.
   ISSUES INLCUDE:
          Polymicrobial bactermia
          Biliary obstruction
              ? liver abscess
          Leukocytosis
          COAGULOPATHY
supratherapeutic INR
          Femoral stent, PVD
          RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
          H/O DIABETES MELLITUS (DM), TYPE I
          BALANCE, IMPAIRED
          GAIT, IMPAIRED
          KNOWLEDGE, IMPAIRED
          TRANSFERS, IMPAIRED
   The etiology of bacteremia/leukocytosis is likely biliary obstruction
   with evidence of possible liver abscess vs large biliary ducts/bile
   pooling seen on CT abd. Patient has an unclear history of prior biliary
   intervention (placed at OSH several yrs prior, ? [**2185**]) and the biliary
   stent appears to be misplaced by CT read.
   Supratherpautic INR has corrected w/ vit K with plan for ERCP tomorrow.
   We continue antibiotics, with guidance from ID team given her
   polymicrobial bacteremia. Her WBC count isrising slowly, though she
   remains af and lfts slowlydecreasing.  Will send differential and check
   stool for c diff . F/u pending cx data and recx if spikes. Continue to
   monitor LFTs and follow serial abd exams.  Pending ERCP, will consider
   further intervention with possible IR-guided drainage of ? liver
   abscess.
   Coagulopathy/supratherapurtic INR in the setting of coumadin and
   antibxs. Now normalized with vit K.
   For PVD and femoral stent, we will continue anti-platelet agents,
   though there is a risk of bleeding during the ERCP procedure. Clarify
   with vascular surgery. Monitor closely for post-procedure bleeding.
   Keep t and c active.
   She continues on PD for esrd.  Given neg fluid balance, renal plans to
   adjust PD dialysate accordingly.
   Continue insulin therapy given DM1, though need to be cautious given
   NPO status.  [**Last Name (un) 276**] team is following.
   Recent demand ischemia during green MICU course, in setting of
   sepsis/hypotension, we are no longer cycling ces.  She remains on beta
   blocker.
   Remainder as outlined in resident note.
   ICU Care
   Nutrition:   NPO after MN for procedure (ERCP)
   Glycemic Control:  Regular insulin sliding scale, Insulin infusion
   Lines:
   Multi Lumen - [**2200-8-5**] 04:24 PM
   20 Gauge - [**2200-8-6**] 03:17 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2200-08-11 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -ERCP tomorrow (will not do sphincterotomy as pt on plavix)
   -renal to change dialysis fluid goals
   - [**Last Name (un) 276**] ok with [**Hospital1 **] lantus and decreased insulin drip by half given
   dextrose in PD fluid from 4.5 to 2.5%
   - will need to drain PD fluid prior to ERCP
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; Parkin
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Labetalol
   Nausea/Vomiting
   Norvasc (Oral) (Amlodipine Besylate)
   vertigo;
   Codeine
   Nausea/Vomiting
   Zocor (Oral) (Simvastatin)
   muscle and join
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2200-8-10**] 10:08 PM
   Linezolid - [**2200-8-11**] 12:00 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2200-8-10**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2200-8-10**] 10:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-8-11**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.7
C (99.8
   HR: 90 (72 - 91) bpm
   BP: 134/90(99) {93/23(49) - 150/100(106)} mmHg
   RR: 21 (13 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.3 kg (admission): 79 kg
   Height: 62 Inch
             Total In:
                                                                    829 mL
                                                                    336 mL
   PO:
                                                                    440 mL
             TF:
   IVF:
                                                                    389 mL
                                                                    336 mL
   Blood products:
   Total out:
                                                                  3,206 mL
                                                                    300 mL
   Urine:
                                                                      6 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,377 mL
                                                                     36 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   General: Alert, oriented, no acute distress, in mild pain
   HEENT: mmm, NC/AT, anicteric sclera
   Lungs: clear bilaterally anteriorly, diffuse wheezes laterally
   CV: RRR, no m/r/g appreciated
   Abdomen: Distended, hypoactive BS, soft, diffuse TTP, no
   rebound/guarding.  PD line in place, no discharge or erythema
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema; L
   foot in waffle boot without evidence of skin breakdown
   Labs / Radiology
   300 K/uL
   10.2 g/dL
   183 mg/dL
   6.2 mg/dL
   29 mEq/L
   4.0 mEq/L
   44 mg/dL
   92 mEq/L
   134 mEq/L
   30.6 %
   20.0 K/uL
        [image002.jpg]
                             [**2200-8-5**]  12:51 PM
                             [**2200-8-5**]  07:34 PM
                             [**2200-8-6**]  02:48 AM
                             [**2200-8-6**]  05:16 AM
                             [**2200-8-6**]  11:13 AM
                             [**2200-8-7**]  02:54 AM
                             [**2200-8-8**]  03:46 AM
                             [**2200-8-9**]  04:01 AM
                             [**2200-8-10**]  03:20 AM
                             [**2200-8-11**]  03:53 AM
   WBC
   18.2
   14.5
   11.1
   15.3
   13.9
   16.8
   17.0
   18.3
   20.0
   Hct
   24.4
   24.9
   32.6
   28.0
   28.9
   31.5
   32.4
   31.1
   30.6
   Plt
   [**Telephone/Fax (3) 10102**]44
   [**Telephone/Fax (2) 10115**]59
   300
   Cr
   7.6
   7.6
   7.3
   7.5
   7.0
   6.9
   6.8
   6.3
   6.2
   TropT
   0.50
   0.74
   TCO2
   28
   Glucose
   [**Telephone/Fax (3) 10107**]
   164
   195
   183
   Other labs: PT / PTT / INR:13.0/32.3/1.1, ALT / AST:325/346, Alk Phos /
   T Bili:693/4.4, Ca++:10.1 mg/dL, Mg++:1.7 mg/dL, PO4:4.3 mg/dL
   Micro:
[**8-4**]: urine cx GRAM POSITIVE BACTERIA. >100,000 ORGANISMS/ML. Alpha hemolytic c
olonies consistent with alpha streptococcus or Lactobacillus sp.
[**8-4**]: blood cx: VRE
[**8-4**]: dialysis fluid cx: no growth
[**8-5**]: blood cx: GRAM POSITIVE COCCUS(COCCI). IN PAIRS AND CHAINS.
[**8-7**]: blood cx: pending
[**8-7**]: peritoneal fluid: no growth
[**8-8**]: blood cx: pending
[**8-8**]: stool cx: neg, c diff neg
[**8-9**]: blood cx: pending
Imaging:
[**8-6**] CTA aorta/bifem/iliac:
   1. Bilateral ground glass opacities within the lungs may be related to
   multifocal pneumonia.
   2. Given abnormal common bile duct stent position in combination with
   intrahepatic biliary ductal dilatation, the large ill-defined and
   irregular
   left hepatic hypodensity is felt to represent an abscess secondary to
   ascending cholangitis. At this time, an ERCP is recommended with stent
   replacement. If patient does not improve clinically, repeat imaging can
   be
   obtained in 48 hours and eventually percutaneous aspiration can be
   considered.
   3. Calcified bladder wall.
   4. Patent lower extremity vessels and right SFA stent graft with
   multifocal
   areas of narrowing involving the left popliteal and trifurcation
   vessels as
   well as the left SFA and popliteal arteries secondary to both calcified
   and
   noncalcified atherosclerotic plaque.
   Assessment and Plan
   58 yo F transferred from west ICU for ERCP.  Admitted on [**8-5**] with
   polymicrobial sepsis - klebsiella and VRE and transaminitis attributed
   to shock liver. She developed new hyperbilirubinemia with worsening
   transaminitis and increased abdominal pain, concern for cholangitis.
   .
   #. Sepsis:  Resolving. Pt now afebrile with nl HR. WBC stable and BP's
   stable (110s-150s) over last 24 hours.  Presumed cause is biliary tract
   given polymicrobical culture of klebsiella and VRE.  T bili now stable
   and pt feels slightly improved. CT showing displaced stent, and
   intrahepatic biliary duct dilation in addition to several areas
   concerning for abscess. Transaminitis on presentation thought to be due
   to shock liver or due to cholangitis.
   - continue Linezolid and Zosyn
   - - maintain UOP >30cc/hr
   - MAP >65
   - bolus as needed
   - ERCP Monday now that INR< 1.5
   -Trend LFTs
   .
   # Elevated INR: INR 1.1 today. No vitamin K given yesterday.  Unclear
   cause of elevated INR, likely [**1-13**] antibiotic use, poor po intake. Now
   OK for procedure.
   -Heparin SC for DVT prophylaxis
   -ERCP tmrw
   - hold crestor due to elevated LFTs
     .
   # Demand Ischemia:  Noted to have elevated troponin on admission.
   Continued to rise to 0.74 on [**8-7**], per cards c/s felt to be due to
   demand ischemia.  MBI was flat. EKG unchanged from prior.
   - continue BB, statin
   - holding ASA in prep for ERCP, restart aspirin 72 hours after
   procedure
   # Peripheral Vascular Disease:  S/p R SFA stent placement and
   angioplasty and R SFA-AK [**Doctor Last Name 114**] angioplasty earlier this month.  There was
   initial concern for compartment syndrome with elevated CK, but pt with
   demand ischemia, CK elevation not attributed to skeletal muscle source.
   - continue plavix given recent stent placement - ERCP aware; t/b with
   vascular about possibly stopping for ERCP. Pt may need FFP
   peri-procedure.
   - holding ASA
   - continue gabapentin and morphine PRN pain
   # ESRD: Secondary to DM, on peritoneal dialysis - performing bedside
   with goal to ultrafiltrate -- changing regimen to 3 hour dwell to
   attempt to remove more fluid. Approx 2.5L removed yesterday.
   -Renal to change diasylate today
   -Peritoneal fluid bland, not thought to be source of infection
   - nephrology following, appreciate recs
   - avoid nephrotoxins, renally dose meds
   .
   # DM1: Complicated by retinopathy, neuropathy, nephropathy,
   gastroparesis.   [**Last Name (un) 276**] recommended 50 units Lantus TID but prior to
   changing, pt had FSBS of 56 so kept on Lantus 50 units [**Hospital1 **].
   - restart insulin drip
   -F/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 276**] re: Lantus dosing; appreciate recs
   - FSBG q1h
    .
   # Hypothyroidism: Continue home levothyroxine.
    .
   # Anemia: At baseline. Chronic. Likely [**1-13**] CRI. No signs of active
   bleeding.
   - continue Epogen qSaturday
   -CBC daily
   ICU Care
   Nutrition: NPO for procedure
   Glycemic Control:
   Lines:
   Multi Lumen - [**2200-8-5**] 04:24 PM
   20 Gauge - [**2200-8-6**] 03:17 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Patient, Son [**Name (NI) 10086**] [**Name (NI) 10087**] [**Telephone/Fax (1) 10088**] or
   [**Telephone/Fax (1) 10089**]
   Code status: Full code
   Disposition: ICU

2200-08-11 10:48:00 Physician Attending Progress Note
Chief Complaint: polymicrobial sepsis, bilairy obstruction, possible
   liver abscess
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58F with DM1, CAD, ESRD on PD, presents with sepsis/hypotension, found
   to have polymicrobial bacteremia (kelbsiella and vre) and possible
   biliary obstruction.
   24 Hour Events:
   renal adjusted PD dialysate for neg fluid balance
   ERCP planned for this am
   History obtained from Patient, HO
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; Parkin
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Labetalol
   Nausea/Vomiting
   Norvasc (Oral) (Amlodipine Besylate)
   vertigo;
   Codeine
   Nausea/Vomiting
   Zocor (Oral) (Simvastatin)
   muscle and join
   Last dose of Antibiotics:
   Linezolid - [**2200-8-11**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2200-8-11**] 10:05 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-8-10**] 10:08 PM
   Morphine Sulfate - [**2200-8-11**] 07:53 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-8-11**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.6
C (99.7
   HR: 74 (72 - 91) bpm
   BP: 126/36(59) {93/23(49) - 151/100(106)} mmHg
   RR: 18 (13 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.3 kg (admission): 79 kg
   Height: 62 Inch
             Total In:
                                                                    829 mL
                                                                    552 mL
   PO:
                                                                    440 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    389 mL
                                                                    452 mL
   Blood products:
   Total out:
                                                                  3,206 mL
                                                                  1,106 mL
   Urine:
                                                                      6 mL
                                                                      6 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,377 mL
                                                                   -554 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), faint
   systolin m
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended, pd
   fluid, diffusley tender but stable exam, no r/g
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   300 K/uL
   183 mg/dL
   6.2 mg/dL
   29 mEq/L
   4.0 mEq/L
   44 mg/dL
   92 mEq/L
   134 mEq/L
   30.6 %
   20.0 K/uL
        [image002.jpg]
                             [**2200-8-5**]  12:51 PM
                             [**2200-8-5**]  07:34 PM
                             [**2200-8-6**]  02:48 AM
                             [**2200-8-6**]  05:16 AM
                             [**2200-8-6**]  11:13 AM
                             [**2200-8-7**]  02:54 AM
                             [**2200-8-8**]  03:46 AM
                             [**2200-8-9**]  04:01 AM
                             [**2200-8-10**]  03:20 AM
                             [**2200-8-11**]  03:53 AM
   WBC
   18.2
   14.5
   11.1
   15.3
   13.9
   16.8
   17.0
   18.3
   20.0
   Hct
   24.4
   24.9
   32.6
   28.0
   28.9
   31.5
   32.4
   31.1
   30.6
   Plt
   [**Telephone/Fax (3) 10102**]44
   [**Telephone/Fax (2) 10115**]59
   300
   Cr
   7.6
   7.6
   7.3
   7.5
   7.0
   6.9
   6.8
   6.3
   6.2
   TropT
   0.50
   0.74
   TCO2
   28
   Glucose
   [**Telephone/Fax (3) 10107**]
   164
   195
   183
   Other labs: PT / PTT / INR:13.0/32.3/1.1, CK / CKMB /
   Troponin-T:1383/15/0.74, ALT / AST:325/346, Alk Phos / T Bili:693/4.4
   (up), Amylase / Lipase:/13, Differential-Neuts:85.0 %, Band:4.0 %,
   Lymph:1.0 %, Mono:4.0 %, Eos:6.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.9
   g/dL, LDH:956 IU/L, Ca++:10.1 mg/dL, Mg++:1.7 mg/dL, PO4:4.3 mg/dL
   Microbiology: [**8-7**] ngtd from blood
   [**8-7**] pd ngtd
   c diff and stool cx neg
   Assessment and Plan
   58F with DM1, CAD, ESRD on PD, presenting with sepsis/hypotension,
   found to have polymicrobial bacteremia (kelbsiella and vre) and
   possible biliary obstruction.
   ISSUES INLCUDE:
          Polymicrobial bactermia
          Biliary obstruction/cholangitis
              ? liver abscess
          Leukocytosis
          COAGULOPATHY
supratherapeutic INR, corrected with vit K
          Femoral stent, PVD
              Chronic anemia on epogen
          RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
          H/O DIABETES MELLITUS (DM), TYPE I
          BALANCE, IMPAIRED
          GAIT, IMPAIRED
          KNOWLEDGE, IMPAIRED
          TRANSFERS, IMPAIRED
   The etiology of bacteremia/leukocytosis is likely biliary obstruction
   with evidence of possible liver abscess vs large biliary ducts/bile
   pooling seen on CT abd. Patient has an unclear history of prior biliary
   intervention (placed at OSH several yrs prior, ? [**2185**]) and the biliary
   stent appears to be misplaced by CT read.
   Supratherpautic INR has corrected w/ vit K with plan for ERCP today. We
   continue antibiotics for polymicrobial bacteremia. Her WBC count is
   rising slowly, lfts increased, though she remains af.  Addiitonal
   infection w/u has been neg to date including c diff cxs and urine and
   f/u blood cxs. Continue to monitor LFTs and follow serial abd exams.
   Pending ERCP, will consider further intervention with possible
   IR-guided drainage of ? liver abscess.  Will d/w ercp team rwcs
   regarding reimaging to reassess the bile ducts vs liver abscess.
   Coagulopathy/supratherapurtic INR in the setting of coumadin and
   antibxs. Now normalized with vit K. On sq hep prophy
   For PVD and femoral stent, we will continue anti-platelet agents,
   though there is a risk of bleeding during the ERCP procedure. Clarify
   with vascular surgery. Monitor closely for post-procedure bleeding. Non
   plan from ercp for sphincterotomy. Keep t and c active.
   She continues on PD for esrd.
   Continue insulin therapy given DM1, though need to be cautious given
   NPO status today for procedure. [**Last Name (un) 276**] team is following.  She has had
   some BS lability which is further impacted by PD dialysate glucose
   conc.
   Recent demand ischemia during green MICU course, in setting of
   sepsis/hypotension, we are no longer cycling ces.  She remains on beta
   blocker.
    Remainder as outlined in resident note.
   ICU Care
   Nutrition:
   Comments: npo for procedure
   Glycemic Control:  Regular insulin sliding scale, Comments: lantus
   Lines:
   Multi Lumen - [**2200-8-5**] 04:24 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2200-08-12 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -s/p ERCP: removed old biliary stent.  Sludge/stone like defect in
   distal common [**Last Name (un) 10122**] duct.  Since aspirin/plavix, no sphincterotomy
   performed due to aspirin use.  New biliary stent placed with good bile
   flow.  Repeat ERCP with sphincterotomy in 12 weeks
   -[**Last Name (un) 276**] recs: stop drip, ISS, lantus 50mg [**Hospital1 **].
   -ID recs: talk to ID on [**8-12**] about reimaging and duration of antibiotics
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; Parkin
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Labetalol
   Nausea/Vomiting
   Norvasc (Oral) (Amlodipine Besylate)
   vertigo;
   Codeine
   Nausea/Vomiting
   Zocor (Oral) (Simvastatin)
   muscle and join
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2200-8-11**] 10:05 AM
   Linezolid - [**2200-8-12**] 12:12 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2200-8-11**] 07:53 AM
   Heparin Sodium (Prophylaxis) - [**2200-8-11**] 10:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-8-12**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.7
C (98
   HR: 82 (72 - 89) bpm
   BP: 123/37(59) {101/28(50) - 154/89(128)} mmHg
   RR: 14 (13 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 79 kg
   Height: 62 Inch
             Total In:
                                                                  1,120 mL
                                                                    336 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                    820 mL
                                                                    336 mL
   Blood products:
   Total out:
                                                                  2,519 mL
                                                                  1,500 mL
   Urine:
                                                                     19 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,399 mL
                                                                 -1,164 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General: Alert, oriented, comfortable
   Lungs: CTAB, no wheezes or crackles
   CV: RRR, no m/r/g appreciated
   Abdomen: Distended, hypoactive BS, soft, diffuse TTP, no
   rebound/guarding.  PD line in place, no discharge or erythema
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   278 K/uL
   9.7 g/dL
   129 mg/dL
   5.6 mg/dL
   29 mEq/L
   3.4 mEq/L
   41 mg/dL
   93 mEq/L
   135 mEq/L
   30.4 %
   15.6 K/uL
        [image002.jpg]
                             [**2200-8-5**]  07:34 PM
                             [**2200-8-6**]  02:48 AM
                             [**2200-8-6**]  05:16 AM
                             [**2200-8-6**]  11:13 AM
                             [**2200-8-7**]  02:54 AM
                             [**2200-8-8**]  03:46 AM
                             [**2200-8-9**]  04:01 AM
                             [**2200-8-10**]  03:20 AM
                             [**2200-8-11**]  03:53 AM
                             [**2200-8-12**]  03:27 AM
   WBC
   14.5
   11.1
   15.3
   13.9
   16.8
   17.0
   18.3
   20.0
   15.6
   Hct
   24.9
   32.6
   28.0
   28.9
   31.5
   32.4
   31.1
   30.6
   30.4
   Plt
   [**Telephone/Fax (3) 10123**]
   259
   300
   278
   Cr
   7.6
   7.3
   7.5
   7.0
   6.9
   6.8
   6.3
   6.2
   5.6
   TropT
   0.50
   0.74
   TCO2
   28
   Glucose
   326
   80
   [**Telephone/Fax (3) **]
   164
   195
   183
   129
   Other labs: PT / PTT / INR:14.0/30.5/1.2, ALT / AST:225/157, Alk Phos /
   T Bili:595/2.6, Amylase / Lipase:/13, Lactic Acid:1.4 mmol/L,
   Albumin:2.4 g/dL, LDH:515 IU/L, Ca++:9.3 mg/dL, Mg++:1.7 mg/dL, PO4:4.6
   mg/dL
   Micro:
[**8-4**]: urine cx GRAM POSITIVE BACTERIA. >100,000 ORGANISMS/ML. Alpha hemolytic c
olonies consistent with alpha streptococcus or Lactobacillus sp.
[**8-4**]: blood cx: VRE
[**8-4**]: dialysis fluid cx: no growth
[**8-5**]: blood cx: GRAM POSITIVE COCCUS(COCCI). IN PAIRS AND CHAINS.
[**8-7**]: blood cx: pending
[**8-7**]: peritoneal fluid: no growth
[**8-8**]: blood cx: pending
[**8-8**]: stool cx: neg, c diff neg
[**8-9**]: blood cx: pending
[**8-11**]:
   ERCP: Scout image shows cholecystectomy clips and plastic biliary stent
   in
   the right upper quadrant. Subsequent images demonstrate common bile
   duct
   cannulation with a long-segment stricture in the distal CBD spanning
   approximately the height of one vertebral body. Stent removal across
   this
   level and replacement are noted.
   [**8-11**] ERCP report:
   Impression:
     * Old biliary stent removed
     * Sludge/stone like filling defect in distal CBD
     * Since the patient was on ASA and Plavix, a sphinterotomy was not
       performed
     * New biliary stent placed with good flow of bile
   Recommendations:
     * Return to ICU
     * Follow for response/complications
     * Please call if develop jaundice, abdominal pain or black stools.
     * Follow-up with Dr. [**Last Name (STitle) 10124**]
     * Repeat ERCP with sphinterotomy in 12 weeks once she can be safely
       off her plavix for 7 days
     * If any problems- please call Dr. [**Last Name (STitle) 8794**].
   Assessment and Plan
   58 yo F transferred from west ICU for ERCP.  Admitted on [**8-5**] with
   polymicrobial sepsis due to bacteremia with klebsiella and VRE likely
   [**1-13**] cholangitis seen on imaging.
   .
   #. Sepsis:  Resolved. Pt now afebrile with nl HR. WBC stable and BP's
   stable (110s-150s) over last 24 hours.  Presumed cause is biliary tract
   given polymicrobical culture of klebsiella and VRE.  T bili now stable
   and pt feels slightly improved. CT showing displaced stent, and
   intrahepatic biliary duct dilation in addition to several areas
   concerning for abscess. Transaminitis on presentation thought to be due
   to shock liver or due to cholangitis.
   - continue Linezolid and Zosyn
   - ERCP [**8-11**]: old biliary stent was removed, sludge/stone like filling
   defect in distal CBD, new stend placed; repeat ERCP with sphincterotomy
   in 12 wks once safely off plavix for 7 days
   - trend LFTs, hold statin due to elev LFTs
   - f/u with ID re: reimaging, plan for abx for multiple abscesses
   - will restart ASA in 72 hours
   .
   # Altered Mental Status: DDx include infection, seizure (drugs lowering
   threshould of seizure), hypoglycemia unlikely given normal level of
   glucose
   - need to talk to family re baseline
   - ABG to check CO2
   - continue keppra
   .
   # Demand Ischemia:  Noted to have elevated troponin on admission, peak
   was 0.74 on [**8-7**] and per cards c/s felt to be due to demand ischemia.
   MBI was flat and EKG was unchanged from prior.
   - continue BB
   - holding statin bc of elev LFTs
   - held ASA in prep for ERCP, will restart 72 hours after ERCP procedure
   # Peripheral Vascular Disease:  S/p R SFA stent placement and
   angioplasty and R SFA-AK [**Doctor Last Name 114**] angioplasty earlier this month.  There was
   initial concern for compartment syndrome with elevated CK, but pt with
   demand ischemia, CK elevation not attributed to skeletal muscle source.
   - continue plavix given recent stent placement
   - held ASA for ERCP, will restart 72 hours after procedure
   - continue Coumadin (5mg daily), goal of [**1-14**]
   - continue gabapentin and morphine PRN pain
   # ESRD: Secondary to DM, on peritoneal dialysis, currently dwell time 3
   hours. Approx 3.2L removed yesterday.
   - peritoneal fluid was bland, not thought to be source of infection
   - nephrology following for PD, appreciate recs
   - dose meds per PD protocol
   .
   # DM1: Complicated by retinopathy, neuropathy, nephropathy,
   gastroparesis.   [**Last Name (un) 276**] recommended 50 units Lantus TID but prior to
   changing, pt had FSBS of 56 so kept on Lantus 50 units [**Hospital1 **].
   - [**First Name8 (NamePattern2) **] [**Last Name (un) 276**] rec: d/c insulin drip, 50U Lantus [**Hospital1 **], ISS
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 276**] recs today
   - FSBG q4h
    .
   # Hypothyroidism: Continue home levothyroxine.
    .
   # Anemia: At baseline. Chronic. Likely [**1-13**] CRI. No signs of active
   bleeding.
   - continue Epogen qSaturday
   - CBC daily
   .
   # Seizure d/o: no current seizure activity
   - continue Keppra for seizure ppx
   ICU Care
   Nutrition: clear liquids, ADAT today
   Glycemic Control:
   Lines:
   Multi Lumen - [**2200-8-5**] 04:24 PM
   Prophylaxis:
   DVT: heparin SC, Coumadin (not therapeutic yet)
   Stress ulcer: H2 blocker
   VAP:  Not on ventilator
   Comments:
   Communication:  Patient, Son [**Name (NI) 10086**] [**Name (NI) 10087**] [**Telephone/Fax (1) 10088**] or
   [**Telephone/Fax (1) 10089**]
   Code status: Full code
   Disposition: ICU

2200-08-12 12:20:00 Physician Attending Progress Note
Chief Complaint: polymicrobial sepsis, biliary obstruction/cholangitis,
   ? liver abscess
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58F with DM1, CAD, ESRD on PD, presenting with sepsis/hypotension,
   found to have polymicrobial bacteremia (kelbsiella and vre) in setting
   of biliary obstruction/cholangitis.
   24 Hour Events:
 ERCP - At [**2200-8-11**] 12:55 PM-->old stent removed, sludge
   cleared-->new stent placed, no cholangiogram performed (on plavix)
   insulin gtt d/c
d, switched to lantus and ssi
   History obtained from Patient, ho
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; Parkin
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Labetalol
   Nausea/Vomiting
   Norvasc (Oral) (Amlodipine Besylate)
   vertigo;
   Codeine
   Nausea/Vomiting
   Zocor (Oral) (Simvastatin)
   muscle and join
   Last dose of Antibiotics:
   Linezolid - [**2200-8-12**] 12:12 AM
   Piperacillin/Tazobactam (Zosyn) - [**2200-8-12**] 10:00 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2200-8-12**] 07:51 AM
   Heparin Sodium (Prophylaxis) - [**2200-8-12**] 07:57 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-8-12**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 69 (69 - 89) bpm
   BP: 122/46(65) {101/28(50) - 154/89(128)} mmHg
   RR: 17 (13 - 19) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.8 kg (admission): 79 kg
   Height: 62 Inch
             Total In:
                                                                  1,120 mL
                                                                    460 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                    820 mL
                                                                    460 mL
   Blood products:
   Total out:
                                                                  2,519 mL
                                                                  2,606 mL
   Urine:
                                                                     19 mL
                                                                      6 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,399 mL
                                                                 -2,146 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, more
   somnolent today
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Rhonchorous: scant)
   Abdominal: Soft, mildly-tender left, no r/g, Bowel sounds present,
   Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  warm
   Neurologic: Attentive, Follows simple commands,
   Labs / Radiology
   9.7 g/dL
   278 K/uL
   129 mg/dL
   5.6 mg/dL
   29 mEq/L
   3.4 mEq/L
   41 mg/dL
   93 mEq/L
   135 mEq/L
   30.4 %
   15.6 K/uL
        [image002.jpg]
                             [**2200-8-5**]  07:34 PM
                             [**2200-8-6**]  02:48 AM
                             [**2200-8-6**]  05:16 AM
                             [**2200-8-6**]  11:13 AM
                             [**2200-8-7**]  02:54 AM
                             [**2200-8-8**]  03:46 AM
                             [**2200-8-9**]  04:01 AM
                             [**2200-8-10**]  03:20 AM
                             [**2200-8-11**]  03:53 AM
                             [**2200-8-12**]  03:27 AM
   WBC
   14.5
   11.1
   15.3
   13.9
   16.8
   17.0
   18.3
   20.0
   15.6
   Hct
   24.9
   32.6
   28.0
   28.9
   31.5
   32.4
   31.1
   30.6
   30.4
   Plt
   [**Telephone/Fax (3) 10123**]
   259
   300
   278
   Cr
   7.6
   7.3
   7.5
   7.0
   6.9
   6.8
   6.3
   6.2
   5.6
   TropT
   0.50
   0.74
   TCO2
   28
   Glucose
   326
   80
   [**Telephone/Fax (3) **]
   164
   195
   183
   129
   Other labs: PT / PTT / INR:14.0/30.5/1.2, CK / CKMB /
   Troponin-T:1383/15/0.74, ALT / AST:225/157 (down), Alk Phos / T
   Bili:595/2.6 (down), Amylase / Lipase:/13, Differential-Neuts:85.0 %,
   Band:4.0 %, Lymph:1.0 %, Mono:4.0 %, Eos:6.0 %, Lactic Acid:1.4 mmol/L,
   Albumin:2.4 g/dL, LDH:515 IU/L, Ca++:9.3 mg/dL, Mg++:1.7 mg/dL, PO4:4.6
   mg/dL
   Microbiology: no growth to date from bl since [**8-7**]
   Assessment and Plan
   58F with DM1, CAD, ESRD on PD, presenting with sepsis/hypotension,
   found to have polymicrobial bacteremia (kelbsiella and vre) in setting
   of biliary obstruction/cholangitis.
   ISSUES INLCUDE:
              Somnolence (new)
          Polymicrobial bactermia
          Biliary obstruction/cholangitis s/p ercp/stent
              ? liver abscess
          Leukocytosis (down)
          Femoral stent, PVD
              Chronic anemia, on epogen
          RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
          H/O DIABETES MELLITUS (DM), TYPE I
          BALANCE, IMPAIRED
          GAIT, IMPAIRED
          KNOWLEDGE, IMPAIRED
          TRANSFERS, IMPAIRED
   The etiology of presenting sepsis/bacteremia/leukocytosis is likely
   biliary obstruction/cholangitis with evidence of possible liver abscess
   vs large biliary ducts/bile pooling seen on CT abd.
   Agree with plan to continue linezolid and zosyn for polymicrobial
   bacteremia. Her WBC count and lfts are improving post ercp with stent
   and she remains af.  Additional infection w/u has been neg to date
   including c diff cxs, PD cxs, urine and f/u blood cxs. We continue to
   monitor LFTs and follow serial abd exams.  Will plan to reimage her
   ruq in a few days to guide length of antibx course and need for further
   intervention such as IR-guided drainage procedure in regards to ? liver
   abscesses.
   Unclear etiology of increasing somnolence this am.  VSS and AF. No
   change in oxygenation.  Has known sz history, but no observed sz
   activity.  Will evaluate with abg to assess CO2.  Monitor closely in
   ICU for now pending improvement in MS.
   For PVD and femoral stent, she remains on plavix.  On sq hep for DVT
   prophy until INR therapeutic.  Coumadin has been restarted.  Hct
   remains stable post procuedre.
   Continues with PD for esrd, per renal.
   Continue insulin therapy given DM1 with [**Last Name (un) 276**] team following.
   Remainder as outlined in resident note.
   ICU Care
   Nutrition:  clears when less somnolent
   Glycemic Control:  Regular insulin sliding scale, Comments: lantus
   Lines:
   Multi Lumen - [**2200-8-5**] 04:24 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Monitor in ICU pending improvement in MS
 consider floor
   transfer later.
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU staff addendum:
   MS has not improved.  Remains somnolent but arousable, answers
   questions.  Remains hemodynamically stable and af.
   Concern for infection, delirium, possible sz, Co2 retention,CNS event
   (less likely, nonfocal neuron exam).
   Will recheck abg, ammonia, infection w/u with pan cx (including PD
   fluid) and cxr, and CK.  Given recent supratherapeurtic INR will check
   head CT.  Continue to monitor closely.  Keep NPO and remains in ICU.
   Additional crit care time: 20 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 744**] [**Last Name (NamePattern1) 1165**], MD
   on:[**2200-8-12**] 06:29 PM ------

2200-08-13 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Altered mental status: ammonia wnl. CK wnl. cxr looks ok. peritoneal
   fluid and blood cultures sent. CT head ordered.
   - pt's son was [**Name (NI) 420**], said she had one episode of seizure a year
   ago in the setting of illness. was put on keppra. baseline MS good,
   this MS is not typical for her.
   - pt was made NPO given AMS.
   - renal recs: continue 2.5% dextrose exchange, 6 exchanges / 24hr, 2L,
   3h dwell time
   - ID recs: repeat CT abd in [**4-17**] days to assess fluid collection,
   continue abx, consider TEE after she is more stable to r/o endocarditis
   given OSH urine positive with CoNS
   - ERCP recs: will need repeat ERCP in 3 months for brushings of
   stent/sludge and sphinterotomy once she can be safely off plavix for 7
   days
   - pt needs to follow up with vascular after discharge re need for
   coumadin
   - [**Last Name (un) 276**] rec: continue lantus 50u [**Hospital1 **] and SSI. If tolerating PO, then
   would change SSI Q4h to meal time. -> but bc NPO, 25U Lantus [**Hospital1 **] now
   - ABG rechecked, 7.47/42/61/31 on room air, satting at 98%
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; Parkin
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Labetalol
   Nausea/Vomiting
   Norvasc (Oral) (Amlodipine Besylate)
   vertigo;
   Codeine
   Nausea/Vomiting
   Zocor (Oral) (Simvastatin)
   muscle and join
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2200-8-12**] 10:11 PM
   Linezolid - [**2200-8-13**] 12:00 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2200-8-12**] 07:51 AM
   Morphine Sulfate - [**2200-8-12**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2200-8-12**] 10:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-8-13**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 78 (68 - 88) bpm
   BP: 125/39(60) {100/18(46) - 152/47(72)} mmHg
   RR: 16 (12 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.8 kg (admission): 79 kg
   Height: 62 Inch
             Total In:
                                                                    920 mL
                                                                    338 mL
   PO:
             TF:
   IVF:
                                                                    920 mL
                                                                    338 mL
   Blood products:
   Total out:
                                                                  4,206 mL
                                                                  1,000 mL
   Urine:
                                                                      6 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,286 mL
                                                                   -663 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.47/42/61/30/6
   Physical Examination
   General: Alert, oriented, comfortable
   Lungs: CTAB, no wheezes or crackles
   CV: RRR, no m/r/g appreciated
   Abdomen: Distended, hypoactive BS, soft, diffuse TTP, no
   rebound/guarding.  PD line in place, no discharge or erythema
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   266 K/uL
   8.6 g/dL
   194 mg/dL
   5.4 mg/dL
   30 mEq/L
   3.0 mEq/L
   39 mg/dL
   88 mEq/L
   129 mEq/L
   26.5 %
   16.1 K/uL
        [image002.jpg]
                             [**2200-8-6**]  11:13 AM
                             [**2200-8-7**]  02:54 AM
                             [**2200-8-8**]  03:46 AM
                             [**2200-8-9**]  04:01 AM
                             [**2200-8-10**]  03:20 AM
                             [**2200-8-11**]  03:53 AM
                             [**2200-8-12**]  03:27 AM
                             [**2200-8-12**]  02:30 PM
                             [**2200-8-12**]  11:46 PM
                             [**2200-8-13**]  03:47 AM
   WBC
   15.3
   13.9
   16.8
   17.0
   18.3
   20.0
   15.6
   16.1
   Hct
   28.0
   28.9
   31.5
   32.4
   31.1
   30.6
   30.4
   26.5
   Plt
   244
   240
   288
   273
   259
   300
   278
   266
   Cr
   7.5
   7.0
   6.9
   6.8
   6.3
   6.2
   5.6
   5.4
   TCO2
   32
   31
   Glucose
   [**Telephone/Fax (3) 10127**]64
   195
   183
   129
   194
   Other labs: PT / PTT / INR:23.3/36.0/2.2, ALT / AST:206/173, Alk Phos /
   T Bili:510/2.1, Ca++:9.1 mg/dL, Mg++:1.5 mg/dL, PO4:5.2 mg/dL Ammonia
   35 Lactate 2.0
   Keppra pending
   Micro:
[**8-4**]: urine cx GRAM POSITIVE BACTERIA. >100,000 ORGANISMS/ML. Alpha hemolytic c
olonies consistent with alpha streptococcus or Lactobacillus sp.
[**8-4**]: blood cx: VRE
[**8-4**]: dialysis fluid cx: no growth
[**8-5**]: blood cx: GRAM POSITIVE COCCUS(COCCI). IN PAIRS AND CHAINS.
[**8-7**]: blood cx: pending
[**8-7**]: peritoneal fluid: no growth
[**8-8**]: blood cx: pending
[**8-8**]: stool cx: neg, c diff neg
[**8-9**]: blood cx: pending
[**8-12**]: blood cx: pending
[**8-13**]: blood cx: pending
[**8-12**]: PERITONEAL FLUID GRAM STAIN (Final [**2200-8-12**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
      CULTURE pending
CXR [**8-12**]: prelim
   Remote control overlies the right costophrenic angle, obscuring view in
   this
   area. Previously seen right perihilar consolidation has since resolved.
   Lungs
   appear clear. Right CVL unchanged.
CT Head [**8-13**]: prelim No hemorrhage or edema
   Assessment and Plan
   58 yo F transferred from west ICU for ERCP.  Admitted on [**8-5**] with
   polymicrobial sepsis due to bacteremia with klebsiella and VRE likely
   [**1-13**] cholangitis seen on imaging.
   .
   #. Sepsis:  Resolved. Pt now afebrile with nl HR. WBC stable and BP's
   stable (110s-150s) over last 24 hours.  Presumed cause is biliary tract
   given polymicrobical culture of klebsiella and VRE.  T bili now stable
   and pt feels slightly improved. CT showing displaced stent, and
   intrahepatic biliary duct dilation in addition to several areas
   concerning for abscess. Transaminitis on presentation thought to be due
   to shock liver or due to cholangitis.
   - continue Linezolid and Zosyn
   - ERCP [**8-11**]: old biliary stent was removed, sludge/stone like filling
   defect in distal CBD, new stend placed; repeat ERCP with sphincterotomy
   in 12 wks once safely off plavix for 7 days
   - trend LFTs, hold statin due to elev LFTs
   - f/u with ID re: reimaging, plan for abx for multiple abscesses
   - will restart ASA in 72 hours
   .
   # Altered Mental Status: DDx include narcotics which was most likely
   given that she was given morphine at 5am yesterday, infection, seizure
   (drugs lowering threshould of seizure), hypoglycemia unlikely given
   normal level of glucose
   - monitor narcotic use when pt has AMS
   - f/u CT head final read
   - f/u blood and peritoneal fluid cultures
   - continue keppra
   .
   # Demand Ischemia:  Noted to have elevated troponin on admission, peak
   was 0.74 on [**8-7**] and per cards c/s felt to be due to demand ischemia.
   MBI was flat and EKG was unchanged from prior.
   - continue BB
   - holding statin bc of elev LFTs
   - held ASA in prep for ERCP, will restart 72 hours after ERCP procedure
   # Peripheral Vascular Disease:  S/p R SFA stent placement and
   angioplasty and R SFA-AK [**Doctor Last Name 114**] angioplasty earlier this month.  There was
   initial concern for compartment syndrome with elevated CK, but pt with
   demand ischemia, CK elevation not attributed to skeletal muscle source.
   - continue plavix given recent stent placement
   - held ASA for ERCP, will restart 72 hours after procedure
   - continue Coumadin (5mg daily), goal of [**1-14**]
   - continue gabapentin and morphine PRN pain
   # ESRD: Secondary to DM, on peritoneal dialysis, currently dwell time 3
   hours. Approx 3.2L removed yesterday.
   - peritoneal fluid was bland, not thought to be source of infection
   - nephrology following for PD, appreciate recs
   - dose meds per PD protocol
   .
   # DM1: Complicated by retinopathy, neuropathy, nephropathy,
   gastroparesis.   [**Last Name (un) 276**] recommended 50 units Lantus TID but prior to
   changing, pt had FSBS of 56 so kept on Lantus 50 units [**Hospital1 **].
   - [**First Name8 (NamePattern2) **] [**Last Name (un) 276**] rec: d/c insulin drip, 50U Lantus [**Hospital1 **], ISS
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 276**] recs today
   - FSBG q4h
    .
   # Hypothyroidism: Continue home levothyroxine.
    .
   # Anemia: At baseline. Chronic. Likely [**1-13**] CRI. No signs of active
   bleeding.
   - continue Epogen qSaturday
   - CBC daily
   .
   # Seizure d/o: no current seizure activity
   - continue Keppra for seizure ppx
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2200-8-5**] 04:24 PM
   Prophylaxis:
   DVT: heparin SC, Coumadin
   Stress ulcer: H2 blocker
   VAP:  Not on ventilator
   Comments:
   Communication:  Patient, Son [**Name (NI) 10086**] [**Name (NI) 10087**] [**Telephone/Fax (1) 10088**] or
   [**Telephone/Fax (1) 10089**]
   Code status: Full code
   Disposition: ICU

2200-08-13 10:03:00 Physician Attending Progress Note
Chief Complaint: polymicrobial sepsis, cholangitis, ? liver abscess
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2200-8-12**] 06:40 PM
   altered MS with increased somnolence--> infection w/u with cx's, cxr,
   CT head (no acute process), ammonia level, no evidence of sz activity
   noted, no hypoglycemia, no evidence of CO2 retention (7.47/42/61/98%)
   RA
   kept NPO--> adjusted lantus dosing
   History obtained from ho
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; Parkin
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Labetalol
   Nausea/Vomiting
   Norvasc (Oral) (Amlodipine Besylate)
   vertigo;
   Codeine
   Nausea/Vomiting
   Zocor (Oral) (Simvastatin)
   muscle and join
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2200-8-12**] 10:11 PM
   Linezolid - [**2200-8-13**] 12:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2200-8-12**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2200-8-13**] 08:05 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-8-13**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 83 (68 - 88) bpm
   BP: 159/45(74) {100/18(46) - 159/47(74)} mmHg
   RR: 15 (12 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.8 kg (admission): 79 kg
   Height: 62 Inch
             Total In:
                                                                    920 mL
                                                                    548 mL
   PO:
             200 mL
   TF:
   IVF:
                                                                    920 mL
                                                                    348 mL
   Blood products:
   Total out:
                                                                  4,206 mL
                                                                  1,700 mL
   Urine:
                                                                      6 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,286 mL
                                                                 -1,152 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.47/42/61/30/6
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, more alert
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Resonant : ), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended, Obese, mild LUQ
   tenderness, no r/g
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   266 K/uL
   194 mg/dL
   5.4 mg/dL
   30 mEq/L
   3.0 mEq/L
   39 mg/dL
   88 mEq/L
   129 mEq/L
   26.5 %
   16.1 K/uL
        [image002.jpg]
                             [**2200-8-6**]  11:13 AM
                             [**2200-8-7**]  02:54 AM
                             [**2200-8-8**]  03:46 AM
                             [**2200-8-9**]  04:01 AM
                             [**2200-8-10**]  03:20 AM
                             [**2200-8-11**]  03:53 AM
                             [**2200-8-12**]  03:27 AM
                             [**2200-8-12**]  02:30 PM
                             [**2200-8-12**]  11:46 PM
                             [**2200-8-13**]  03:47 AM
   WBC
   15.3
   13.9
   16.8
   17.0
   18.3
   20.0
   15.6
   16.1
   Hct
   28.0
   28.9
   31.5
   32.4
   31.1
   30.6
   30.4
   26.5
   Plt
   244
   240
   288
   273
   259
   300
   278
   266
   Cr
   7.5
   7.0
   6.9
   6.8
   6.3
   6.2
   5.6
   5.4
   TCO2
   32
   31
   Glucose
   [**Telephone/Fax (3) 10127**]64
   195
   183
   129
   194
   Other labs: PT / PTT / INR:23.3/36.0/2.2, CK / CKMB /
   Troponin-T:59/15/0.74, ALT / AST:206/173, Alk Phos / T Bili:510/2.1
   (trending down), Amylase / Lipase:/13, Differential-Neuts:85.0 %,
   Band:4.0 %, Lymph:1.0 %, Mono:4.0 %, Eos:6.0 %, Lactic Acid:2.0 mmol/L,
   Albumin:2.4 g/dL, LDH:515 IU/L, Ca++:9.1 mg/dL, Mg++:1.5 mg/dL, PO4:5.2
   mg/dL
   Fluid analysis / Other labs: ammonia 35
   keppra pending
   Imaging: cxr--no focal process, clearing of RML infiltrate
   head ct without acute process
   Microbiology: no new + growth bl neg since [**8-7**]
   new set sent [**8-12**] including PD cx (gs neg)
   Assessment and Plan
   58F with DM1, CAD, ESRD on PD, presenting with sepsis/hypotension,
   found to have polymicrobial bacteremia (kelbsiella and vre) in setting
   of biliary obstruction/cholangitis.
   ISSUES INLCUDE:
              Somnolence/altered MS [**First Name (Titles) **] [**Last Name (Titles) 1207**]
              Hyponatremia (mild)
          Polymicrobial bactermia
          Biliary obstruction/cholangitis s/p ercp/stent
              ? liver abscess
          Leukocytosis (down)
          Femoral stent, PVD
              Chronic anemia, on epogen
          RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
          H/O DIABETES MELLITUS (DM), TYPE I
          BALANCE, IMPAIRED
          GAIT, IMPAIRED
          KNOWLEDGE, IMPAIRED
          TRANSFERS, IMPAIRED
   Pt
s MS and increased somnolence yesterday has [**Last Name (Titles) 1207**].  We have
   disucssed a broad ddx (sz, ifnection, intracranial pathology, co2
   retension or elctolyte imbalance) and work up has been unrevealing.
   Now it seems she had received morphine several hours prior and that is
   liekly etiology.
   Now with mild hyponatremia
this is likely hypovolemic as she had had
   neg fluid balance w/ PD X days and was NPO yesterday.  Hypoithyroid and
   siadh seem less likely and does not appear vol up.  Will resume diet
   and discuss changing PD diaylste with renal tema and montior.  If
   worsens will assess urine lytes and osms.
   We continue linezolid and zosyn for polymicrobial bacteremia. Her WBC
   count and lfts are improving post ercp with stent and she remains af.
   Additional infection w/u has been neg to date including c diff cxs, PD
   cxs, urine and f/u blood cxs with repeat cx
s from yesterday pending.
   Will plan to reimage her  ruq in a few days to guide length of antibx
   course and need for further intervention such as IR-guided drainage
   procedure in regards to ? liver abscesses.  Will also arrange for TTE
   to eval SBE (given staph) as this will loiekly guifde length of antibx
   course.  ID input appreciated. Per ercp will need repeat proceudre in
   several wks with brushings, noting concern for sticture.
   For PVD and femoral stent, she remains on plavix.  Coumadin has been
   restarted and will decrease dose to avoid recurrence of
   supratherapeutic INR while on antibx. Can d/c sq hep and monitor.
   Continues with PD for esrd, per renal. Though likely needs adjustment
   to dialysate as she was 7 L neg yesterday.
   Continue insulin therapy given DM1 with [**Last Name (un) 276**] team following.
   Remainder as outlined in resident note.
   Will consult PT and get OOB to chair.
   ICU Care
   Nutrition:  resume diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2200-8-5**] 04:24 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Can d/c as now therapeutic
   on coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  Stable for floor transfer.
   Total time spent:  40